### PR TITLE
Fix bug #7916, allowing `Reflexive` to have mode `! !`

### LINKED ISSUE #7916: `setoid_rewrite` relies on instance selected for `Reflexive ?r`
#### Version

8.8.0

#### Operating system
Linux

#### Description of the problem

Consider the following example:
```coq
From Coq Require Import Setoid.

Lemma test {A}
      (lookup : list A -> nat -> option A)
      (opA : option A -> option A -> option A)
      (opL : list A -> list A -> list A)
      (val : option A -> Prop) :
   (forall l1 l2 (i : nat), lookup (opL l1 l2) i = opA (lookup l1 i) (lookup l2 i)) ->
   forall l1 l2, (forall i : nat, val (lookup (opL l1 l2) i)) -> forall i : nat, val (lookup l1 i).
Proof.
  intros list_lookup_op l1 l2.
  setoid_rewrite list_lookup_op. Undo.

Hint Mode Reflexive ! ! : typeclass_instances.

  setoid_rewrite list_lookup_op.
  (* Fails: "Unable to satisfy the following constraints" *)
```

What is happening here is that I am using `setoid_rewrite` to rewrite below a binder. However, I am rewriting with `=` so no `Proper` instance or anything like that is required.

Still, typeclass search fails when I set a perfectly reasonable mode for `Reflexive`. Looking at the failing typeclass trace, we can see that indeed it is running into solving `Reflexive ?r`:
```Debug: 1: looking for (Morphisms.Proper (eq ==> ?r) val) with backtracking
Debug: 1.1: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (eq ==> ?r) val), 3 subgoal(s)Debug: 1.1-1 : (Morphisms.Proper ?R' val)Debug: 1.1-1: looking for (Morphisms.Proper ?R' val) with backtracking
Debug: 1.1-1.1: (*external*) Morphisms.proper_reflexive on (Morphisms.Proper ?R' val), 0 subgoal(s)
Debug: 1.1-2 : (Unconvertible (relation (option A → Prop)) (Morphisms.respectful eq ?r) eq)

Debug:
1.1-2: looking for (Unconvertible (relation (option A → Prop)) (Morphisms.respectful eq ?r) eq) with backtracking

Debug: 1.1-2.1: (*external*) unconvertible on
(Unconvertible (relation (option A → Prop)) (Morphisms.respectful eq ?r) eq), 0 subgoal(s)Debug: 1.1-3 : (subrelation eq (Morphisms.respectful eq ?r))Debug: 1.1-3: looking for (subrelation eq (Morphisms.respectful eq ?r)) with backtracking
Debug: 1.1-3: no match for (subrelation eq (Morphisms.respectful eq ?r)), 1 possibilities

Debug: 1.2: (*external*) Morphisms.proper_normalization on
(Morphisms.Proper (eq ==> ?r) val), 2 subgoal(s)Debug: 1.2-1 : (Morphisms.Normalizes (option A → Prop) (Morphisms.respectful eq ?r) ?R1)

Debug:
1.2-1: looking for (Morphisms.Normalizes (option A → Prop) (Morphisms.respectful eq ?r) ?R1) with backtracking

Debug: 1.2-1.1: (*external*) Morphisms.normalizes on
(Morphisms.Normalizes (option A → Prop) (Morphisms.respectful eq ?r) ?R1), 2 subgoal(s)Debug: 1.2-1.1-1 : (Morphisms.Normalizes (option A) eq (Basics.flip ?Goal1))
Debug:
1.2-1.1-1: looking for (Morphisms.Normalizes (option A) eq (Basics.flip ?Goal1)) with backtracking

Debug: 1.2-1.1-1.1: (*external*) Morphisms.normalizes on
(Morphisms.Normalizes (option A) eq (Basics.flip ?Goal1)), 0 subgoal(s)Debug: 1.2-1.1-2 : (Morphisms.Normalizes Prop ?r (Basics.flip ?Goal1))
Debug: 1.2-1.1-2: looking for (Morphisms.Normalizes Prop ?r (Basics.flip ?Goal1)) with backtracking

Debug: 1.2-1.1-2.1: (*external*) Morphisms.normalizes on
(Morphisms.Normalizes Prop ?r (Basics.flip ?Goal1)), 0 subgoal(s)
Debug:
1.2-2 : (Morphisms.Proper (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val)

Debug:
1.2-2: looking for (Morphisms.Proper
                      (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val) with backtracking

Debug: 1.2-2.1: (*external*) (class_apply @Morphisms.proper_flip_proper) on
(Morphisms.Proper (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val), 1 subgoal(s)
Debug: 1.2-2.1-1 : (Morphisms.Proper (eq --> Basics.flip ?r) val)
Debug: 1.2-2.1-1: looking for (Morphisms.Proper (eq --> Basics.flip ?r) val) with backtracking

Debug: 1.2-2.1-1.1: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (eq --> Basics.flip ?r) val), 3 subgoal(s)Debug: 1.2-2.1-1.1-1 : (Morphisms.Proper ?R' val)Debug: 1.2-2.1-1.1-1: looking for (Morphisms.Proper ?R' val) with backtrackingDebug: 1.2-2.1-1.1-1: no match for (Morphisms.Proper ?R' val), 12 possibilities
Debug: 1.2-2.2: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val), 3 subgoal(s)
Debug: 1.2-2.2-1 : (Morphisms.Proper ?R' val)Debug: 1.2-2.2-1: looking for (Morphisms.Proper ?R' val) with backtrackingDebug: 1.2-2.2-1: no match for (Morphisms.Proper ?R' val), 12 possibilities
Debug: 1.3: (*external*) Morphisms.proper_reflexive on
(Morphisms.Proper (eq ==> ?r) val), 1 subgoal(s)Debug: 1.3-1 : (Reflexive (Morphisms.respectful eq ?r))Debug: 1.3-1: looking for (Reflexive (Morphisms.respectful eq ?r)) with backtracking

Debug: 1.3-1.1: simple apply @Morphisms.reflexive_eq_dom_reflexive on
(Reflexive (Morphisms.respectful eq ?r)), 1 subgoal(s)Debug: 1.3-1.1-1 : (Reflexive ?r)Debug: 1.3-1.1-1: looking for (Reflexive ?r) with backtrackingDebug: 1.3-1.1-1: no match for (Reflexive ?r), 0 possibilities
Debug: 1.3-1.2: simple apply @Equivalence_Reflexive on
(Reflexive (Morphisms.respectful eq ?r)), 1 subgoal(s)Debug: 1.3-1.2-1 : (Equivalence (Morphisms.respectful eq ?r))Debug: 1.3-1.2-1: looking for (Equivalence (Morphisms.respectful eq ?r)) with backtracking
Debug: 1.3-1.2-1: no match for (Equivalence (Morphisms.respectful eq ?r)), 0 possibilities

Debug: 1.3-1.3: simple apply @PreOrder_Reflexive on
(Reflexive (Morphisms.respectful eq ?r)), 1 subgoal(s)Debug: 1.3-1.3-1 : (PreOrder (Morphisms.respectful eq ?r))Debug: 1.3-1.3-1: looking for (PreOrder (Morphisms.respectful eq ?r)) with backtracking

Debug: 1.3-1.3-1.1: simple apply @Equivalence_PreOrder on
(PreOrder (Morphisms.respectful eq ?r)), 1 subgoal(s)Debug: 1.3-1.3-1.1-1 : (Equivalence (Morphisms.respectful eq ?r))
Debug: 1.3-1.3-1.1-1: looking for (Equivalence (Morphisms.respectful eq ?r)) with backtracking

Debug: 1.3-1.3-1.1-1: no match for (Equivalence (Morphisms.respectful eq ?r)), 0 possibilities
</infomsg>
```

Looking at the succeeding typeclass search from the first `setoid_rewrite`, we can see that it picked `iff_reflexive`:
```
Debug: 1: looking for (Morphisms.Proper (eq ==> ?r) val) with backtracking
Debug: 1.1: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (eq ==> ?r) val), 3 subgoal(s)
Debug: 1.1-1 : (Morphisms.Proper ?R' val)
Debug: 1.1-1: looking for (Morphisms.Proper ?R' val) with backtracking
Debug: 1.1-1.1: (*external*) Morphisms.proper_reflexive on (Morphisms.Proper ?R' val), 0 subgoal(s)
Debug: 1.1-2 : (Unconvertible (relation (option A → Prop)) (Morphisms.respectful eq ?r) eq)
Debug:
1.1-2: looking for (Unconvertible (relation (option A → Prop)) (Morphisms.respectful eq ?r) eq) with backtracking
Debug: 1.1-2.1: (*external*) unconvertible on
(Unconvertible (relation (option A → Prop)) (Morphisms.respectful eq ?r) eq), 0 subgoal(s)
Debug: 1.1-3 : (subrelation eq (Morphisms.respectful eq ?r))
Debug: 1.1-3: looking for (subrelation eq (Morphisms.respectful eq ?r)) with backtracking
Debug: 1.1-3: no match for (subrelation eq (Morphisms.respectful eq ?r)), 1 possibilities
Debug: 1.2: (*external*) Morphisms.proper_normalization on
(Morphisms.Proper (eq ==> ?r) val), 2 subgoal(s)
Debug: 1.2-1 : (Morphisms.Normalizes (option A → Prop) (Morphisms.respectful eq ?r) ?R1)
Debug:
1.2-1: looking for (Morphisms.Normalizes (option A → Prop) (Morphisms.respectful eq ?r) ?R1) with backtracking
Debug: 1.2-1.1: (*external*) Morphisms.normalizes on
(Morphisms.Normalizes (option A → Prop) (Morphisms.respectful eq ?r) ?R1), 2 subgoal(s)
Debug: 1.2-1.1-1 : (Morphisms.Normalizes (option A) eq (Basics.flip ?Goal1))
Debug:
1.2-1.1-1: looking for (Morphisms.Normalizes (option A) eq (Basics.flip ?Goal1)) with backtracking
Debug: 1.2-1.1-1.1: (*external*) Morphisms.normalizes on
(Morphisms.Normalizes (option A) eq (Basics.flip ?Goal1)), 0 subgoal(s)
Debug: 1.2-1.1-2 : (Morphisms.Normalizes Prop ?r (Basics.flip ?Goal1))
Debug: 1.2-1.1-2: looking for (Morphisms.Normalizes Prop ?r (Basics.flip ?Goal1)) with backtracking
Debug: 1.2-1.1-2.1: (*external*) Morphisms.normalizes on
(Morphisms.Normalizes Prop ?r (Basics.flip ?Goal1)), 0 subgoal(s)
Debug:
1.2-2 : (Morphisms.Proper (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val)
Debug:
1.2-2: looking for (Morphisms.Proper
                      (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val) with backtracking
Debug: 1.2-2.1: (*external*) (class_apply @Morphisms.proper_flip_proper) on
(Morphisms.Proper (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val), 1 subgoal(s)
Debug: 1.2-2.1-1 : (Morphisms.Proper (eq --> Basics.flip ?r) val)
Debug: 1.2-2.1-1: looking for (Morphisms.Proper (eq --> Basics.flip ?r) val) with backtracking
Debug: 1.2-2.1-1.1: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (eq --> Basics.flip ?r) val), 3 subgoal(s)
Debug: 1.2-2.1-1.1-1 : (Morphisms.Proper ?R' val)
Debug: 1.2-2.1-1.1-1: looking for (Morphisms.Proper ?R' val) with backtracking
Debug: 1.2-2.1-1.1-1: no match for (Morphisms.Proper ?R' val), 12 possibilities
Debug: 1.2-2.2: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (Basics.flip (Morphisms.respectful (Basics.flip eq) (Basics.flip ?r))) val), 3 subgoal(s)
Debug: 1.2-2.2-1 : (Morphisms.Proper ?R' val)
Debug: 1.2-2.2-1: looking for (Morphisms.Proper ?R' val) with backtracking
Debug: 1.2-2.2-1: no match for (Morphisms.Proper ?R' val), 12 possibilities
Debug: 1.3: (*external*) Morphisms.proper_reflexive on
(Morphisms.Proper (eq ==> ?r) val), 1 subgoal(s)
Debug: 1.3-1 : (Reflexive (Morphisms.respectful eq ?r))
Debug: 1.3-1: looking for (Reflexive (Morphisms.respectful eq ?r)) with backtracking
Debug: 1.3-1.1: simple apply @Morphisms.reflexive_eq_dom_reflexive on
(Reflexive (Morphisms.respectful eq ?r)), 1 subgoal(s)
Debug: 1.3-1.1-1 : (Reflexive ?r)
Debug: 1.3-1.1-1: looking for (Reflexive ?r) with backtracking
Debug: 1.3-1.1-1.1: exact iff_Reflexive on (Reflexive ?r), 0 subgoal(s)
Debug:
2: looking for (Morphisms.Proper (Morphisms.pointwise_relation nat iff ==> ?r) (all (A:=nat))) with backtracking
Debug: 2.1: simple apply @Morphisms_Prop.all_iff_morphism on
(Morphisms.Proper (Morphisms.pointwise_relation nat iff ==> ?r) (all (A:=nat))), 0 subgoal(s)
Debug:
3: looking for (Morphisms.Proper (iff ==> ?r ==> Basics.flip Basics.impl) Basics.impl) with backtracking
Debug: 3.1: (*external*) Morphisms.proper_subrelation on
(Morphisms.Proper (iff ==> ?r ==> Basics.flip Basics.impl) Basics.impl), 3 subgoal(s)
Debug: 3.1-1 : (Morphisms.Proper ?R' Basics.impl)
Debug: 3.1-1: looking for (Morphisms.Proper ?R' Basics.impl) with backtracking
Debug: 3.1-1.1: exact Morphisms_Prop.iff_iff_iff_impl_morphism on
(Morphisms.Proper ?R' Basics.impl), 0 subgoal(s)
Debug:
3.1-2 : (Unconvertible (relation (Prop → Prop → Prop))
           (Morphisms.respectful iff (?r ==> Basics.flip Basics.impl))
           (Morphisms.respectful iff (iff ==> iff)))
Debug:
3.1-2: looking for (Unconvertible (relation (Prop → Prop → Prop))
                      (Morphisms.respectful iff (?r ==> Basics.flip Basics.impl))
                      (Morphisms.respectful iff (iff ==> iff))) with backtracking
Debug: 3.1-2.1: (*external*) unconvertible on
(Unconvertible (relation (Prop → Prop → Prop))
   (Morphisms.respectful iff (?r ==> Basics.flip Basics.impl))
   (Morphisms.respectful iff (iff ==> iff))), 0 subgoal(s)
Debug:
3.1-3 : (subrelation (Morphisms.respectful iff (iff ==> iff))
           (Morphisms.respectful iff (?r ==> Basics.flip Basics.impl)))
Debug:
3.1-3: looking for (subrelation (Morphisms.respectful iff (iff ==> iff))
                      (Morphisms.respectful iff (?r ==> Basics.flip Basics.impl))) with backtracking
Debug: 3.1-3.1: (*external*) (Morphisms.subrelation_tac T U) on
(subrelation (Morphisms.respectful iff (iff ==> iff))
   (Morphisms.respectful iff (?r ==> Basics.flip Basics.impl))), 2 subgoal(s)
Debug: 3.1-3.1-1 : (subrelation iff iff)
Debug: 3.1-3.1-1: looking for (subrelation iff iff) without backtracking
Debug: 3.1-3.1-1.1: (*external*) (Morphisms.subrelation_tac T U) on
(subrelation iff iff), 0 subgoal(s)
Debug:
3.1-3.1-2 : (subrelation (Morphisms.respectful iff iff)
               (Morphisms.respectful ?r (Basics.flip Basics.impl)))
Debug:
3.1-3.1-2: looking for (subrelation (Morphisms.respectful iff iff)
                          (Morphisms.respectful ?r (Basics.flip Basics.impl))) with backtracking
Debug: 3.1-3.1-2.1: (*external*) (Morphisms.subrelation_tac T U) on
(subrelation (Morphisms.respectful iff iff) (Morphisms.respectful ?r (Basics.flip Basics.impl))), 2 subgoal(s)
Debug: 3.1-3.1-2.1-1 : (subrelation ?r iff)
Debug: 3.1-3.1-2.1-1: looking for (subrelation ?r iff) with backtracking
Debug: 3.1-3.1-2.1-1.1: (*external*) (Morphisms.subrelation_tac T U) on
(subrelation ?r iff), 0 subgoal(s)
Debug: 3.1-3.1-2.1-2 : (subrelation iff (Basics.flip Basics.impl))
Debug: 3.1-3.1-2.1-2: looking for (subrelation iff (Basics.flip Basics.impl)) without backtracking
Debug: 3.1-3.1-2.1-2.1: exact Morphisms.iff_flip_impl_subrelation on
(subrelation iff (Basics.flip Basics.impl)), 0 subgoal(s)
Debug:
4: looking for (Morphisms.ProperProxy iff (∀ i : nat, val (lookup l1 i))) without backtracking
Debug:
4.1: (*external*) (class_apply @Morphisms.eq_proper_proxy ||
                     class_apply @Morphisms.reflexive_proper_proxy) on
(Morphisms.ProperProxy iff (∀ i : nat, val (lookup l1 i))), 1 subgoal(s)
Debug: 4.1-1 : (Reflexive iff)
Debug: 4.1-1: looking for (Reflexive iff) without backtracking
Debug: 4.1-1.1: exact iff_Reflexive on (Reflexive iff), 0 subgoal(s)
```
However, I have seen it use other instances, in which case it needs to backtrack. That can be seen in this example by adding
```
Global Instance full_reflexive (A : Type) :
  Reflexive (λ (x y : A), True) | 0.
Proof. Admitted.
```
before the `test` lemma.

In other words, `setoid_rewrite` makes a query for `Reflexive ?r` (actually, `@Reflexive Prop ?r`) and backtracks through the answers it gets until `iff` is picked as the relation. Needless to say, that's *horrible* for performance! It should use something more targeted, and `! !` (or maybe even `+ !`?) should be set as mode for `Reflexive` to avoid rampant backtracking.

### LINKED ISSUE #14349: Why is `eq_subrelation` not an instance?
#### Description of the problem

`eq_subrelation` is not declared as an instance, which makes it impossible to `setoid_rewrite` with `eq` under binders if only a `Proper` is available for some setoid relation.

For example, in Iris we like to do:

```coq
Lemma test `{Countable A} (X : gset A) (Φ Ψ : A → PROP) :
  (∀ x, Φ x = Ψ x) →
  ([∗ set] x ∈ X, Φ x) ⊣⊢ ([∗ set] x ∈ X, Ψ x).
Proof.
  intros Heq. Fail setoid_rewrite Heq. (* fails *)
Existing Instance eq_subrelation.
  setoid_rewrite Heq. (* works *)
```
For `[∗ set]` there is a `Proper (subrelation _ equiv ==> equiv)`, but we are rewriting with `eq`, so this needs `eq_subrelation eq equiv` to succeed.

Thanks to @RalfJung and @Janno we found out that that there used to be a `Hint Extern`, but that it was removed in b0e371b354ffdbf4a8572924602d04848020079e. That commit does not provide further information why it was removed. It seems that hint was broken though, and an `@` is needed to make it work:

```coq
Hint Extern 3 (subrelation (@eq _) ?R) => not_evar R ; class_apply @eq_subrelation.
```

@mattam82 Do you happen to recall why you removed this hint?

#### Coq Version

```
$ coqc --version
The Coq Proof Assistant, version 8.13.1 (March 2021)
compiled on Mar 13 2021 10:35:46 with OCaml 4.11.1
```

### PR DESCRIPTION
**Pull request by mattam82**
**Kind:** bug fix / feature

This fixes #7916, allowing to declare the `Reflexive` class with mode ! ! (even + + if one prefers) without breaking setoid rewrite. It uses a new `ReflexiveProxy` class that allows the relation to be unknown, and relies on the existing `RewriteRelation A RA` typeclass to construct a default reflexive relation for the given (partial) types. Currently this means `iff` and `impl` can be inferred for `Prop`, pointwise equality for function types, and finally Leibniz equality `eq` if nothing else works. There is also a possibility to use any declared `Equivalence` relation on the type, due to the `equivalence_rewrite_relation` global instance declared in RelationClasses (this is necessary to maintain compatibility in general, although the stdlib itself doesn't need it, we can craft examples that do). One can however deactivate this by either using `Remove Hints` or, preferably, declaring a mode + + for Equivalence, then this instance won't trigger anymore in searches, but it will still be useful for rewrite/ssrewrite, that use `RewriteRelation` to determine if an (entirely specified) relation can be used by setoid_rewrite. If the relation is a closed term, then we just search for `Reflexive R` as usual. This goes in the direction of allowing one to put strict ! ! modes on the typeclasses from the standard library (e.g. Reflexive, StrictOrder, etc). It looks we're using default instances quite a bit though in the stdlib itself, so I didn't go further with that experiment.

I'm very curious about what the CI will tell us here :-)

Fixes / closes #7916

- [x] Added / updated test-suite

- [x] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).
- [x] Overlay pull requests (if this breaks 3rd party developments in CI, see
https://github.com/coq/coq/blob/master/dev/ci/user-overlays/README.md for details)

### CODE REVIEW

**Comment by mattam82** [comment]
BTW, the fix involves only changes in .v files, no customizing of typeclasses eauto is needed here. But it demonstrates quite powerful proof-search control capabilities of the tactic monad.

**Comment by mattam82** [comment]
Bench is not good, I will have to dig into it:
────────────────────────────┬──────────────────────────┬────────────────────────────────────────┬────────────────────────────────────────┬──────────────────────────┬─────────────────┐
│                            │      user time [s]       │               CPU cycles               │            CPU instructions            │  max resident mem [KB]   │   mem faults    │
│                            │                          │                                        │                                        │                          │                 │
│               package_name │     NEW      OLD   PDIFF │            NEW             OLD   PDIFF │            NEW             OLD   PDIFF │     NEW      OLD   PDIFF │ NEW  OLD  PDIFF │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                  coq-color │  432.00   469.22   -7.93 │  1198087876735   1305566466613   -8.23 │  1611017075551   1708558475176   -5.71 │ 1075744  1072432    0.31 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                   coq-corn │ 1406.64  1417.50   -0.77 │  3912664559749   3936558446998   -0.61 │  5814940145820   5855164162366   -0.69 │  849004   848984    0.00 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│      coq-engine-bench-lite │  319.08   320.45   -0.43 │   896626592150    900022063226   -0.38 │  1688695834007   1699131605555   -0.61 │ 3546856  3124500   13.52 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│ coq-performance-tests-lite │ 1510.66  1514.03   -0.22 │  4210034074676   4215171251147   -0.12 │  7193340600335   7207662649913   -0.20 │ 1696340  2440928  -30.50 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│            coq-fiat-crypto │ 4718.92  4717.48    0.03 │ 13098053413625  13091293262007    0.05 │ 23674772893749  23641295591746    0.14 │ 2231284  2237460   -0.28 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                 coq-stdlib │  383.04   382.66    0.10 │  1061342135414   1058356156535    0.28 │  1399195359380   1394397515268    0.34 │  567504   567704   -0.04 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                coq-unimath │ 3902.99  3897.30    0.15 │ 10846898539679  10836491064145    0.10 │ 21240091538441  21234314559225    0.03 │ 1021120  1021376   -0.03 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│               coq-rewriter │  674.64   672.15    0.37 │  1871594585696   1865287076738    0.34 │  2921753624961   2919846300295    0.07 │ 1104404  1108448   -0.36 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                   coq-core │  105.00   104.52    0.46 │   293026197740    292255891058    0.26 │   455013454234    455107221149   -0.02 │  295812   262884   12.53 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│               coq-coqprime │   75.96    75.59    0.49 │   207473884406    206300566101    0.57 │   304379789219    302686459074    0.56 │  760840   761732   -0.12 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                coq-coqutil │   52.58    52.22    0.69 │   144584068138    143913503169    0.47 │   193177669249    192149539850    0.54 │  523784   526092   -0.44 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                  coq-flocq │  141.65   140.66    0.70 │   391554008616    389145519176    0.62 │   501099756329    499719413740    0.28 │  824296   828460   -0.50 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                coq-bignums │   53.77    53.37    0.75 │   147868952332    147108801532    0.52 │   205691203074    205076349963    0.30 │  475660   473448    0.47 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│              coq-fiat-core │  103.74   102.42    1.29 │   291538230133    290569055020    0.33 │   411434276464    409738577651    0.41 │  485300   485424   -0.03 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                        coq │    4.15     4.06    2.22 │    10813171537     10869328482   -0.52 │    21987624052     21956165793    0.14 │  262824   290172   -9.42 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│                  coq-verdi │   97.12    93.90    3.43 │   264542781411    257784564266    2.62 │   382976831233    376946732427    1.60 │  547092   553612   -1.18 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│               coq-bedrock2 │  215.80   195.65   10.30 │   596285748025    539346220571   10.56 │  1008856684657    913449728087   10.44 │  777716   778272   -0.07 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│           coq-math-classes │  234.33   198.06   18.31 │   650379065480    548913587833   18.48 │   907328460952    759629315739   19.44 │  543908   502100    8.33 │   0    0    nan │
├────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼─────────────────┤
│           coq-fiat-parsers │ 1437.64   599.35  139.87 │  4009484253094   1672085271119  139.79 │  5342177515220   2641224100008  102.26 │ 3287572  3283584    0.12 │   0    0    nan │
└────────────────────────────┴──────────────────────────┴────────────────────────────────────────┴────────────────────────────────────────┴──────────────────────────┴─────────────────┘

**Comment by ppedrot** [comment]
If I had to guess, I'd say that computing head evars can be extremely expensive on huge terms.

**Comment by mattam82** [comment]
If I had to guess, I would rather think we explore more dead-end paths during resolution of setoid_rewrite goals. The only mode introduced by the PR is `+ -` for `RewriteRelation`, so it should only do more occurrence checks of evars in (small) types.

**Comment by mattam82** [comment]
@ppedrot I need your help here, how do I get line timings for math-classes and fiat-parsers ?

**Comment by ppedrot** [comment]
You need to download the artifacts, and call the script `coqbench-display` from the coq-bench repo on the resulting directory.

**Comment by mattam82** [comment]
> You need to download the artifacts, and call the script `coqbench-display` from the coq-bench repo on the resulting directory.

I'm afraid I don't see which artifacts to download. Sadly the bench did not finish in 24 hours so maybe they are not produced?

**Comment by ppedrot** [comment]
It's possible that the artifacts are dropped if the bench is aborted. You should restart it on the subset of devs you're interested in only.

**Comment by mattam82** [comment]
I suppose I should use `coq_opam_packages = coq-math-classes` when starting the job manually. Do we have a doc for this @SkySkimmer @Zimmi48 ?

**Comment by Zimmi48** [comment]
I don't manage the bench infrastructure (@ppedrot and @SkySkimmer do). The only documentation that I'm aware of is https://github.com/coq/coq/wiki/Benchmarking.

**Comment by SkySkimmer** [comment]
I think that should work.

**Comment by mattam82** [comment]
Cool, one more question: shouldn't we have enough machines now to run benches in parallel?

**Comment by mattam82** [comment]
@ppedrot I have the bench dump, which scripts should I use now?

**Comment by mattam82** [comment]
For math-classes my analysis was right, setoid rewriting was taking more dead-ends, because the library writters did not use `Params` to cut down on proof-search as advised by the doc.

**Comment by mattam82** [comment]
Fiat-parsers bench job: https://gitlab.com/coq/coq/-/jobs/1205997166

**Comment by mattam82** [comment]
I think I tamed fiat-parsers now.

**Comment by mattam82** [comment]
Bench link: https://gitlab.com/coq/coq/-/jobs/1235010440

**Comment by gmalecha** [comment]
@mattam82 What is the likelihood that this will make it into 8.14?

**Comment by JasonGross** [comment]
@coqbot ci minimmize

**Comment by JasonGross** [comment]
@coqbot ci minimize

**Comment by JasonGross** [comment]
@coqbot ci minimize library:ci-mathcomp plugin:ci-elpi

**Comment by JasonGross** [comment]
@coqbot ci minimize library:ci-mathcomp plugin:ci-elpi

**Comment by JasonGross** [comment]
@coqbot ci minimize library:ci-mathcomp plugin:ci-elpi

**Comment by SkySkimmer** [comment]
You're kinda spamming this PR, please open another for testing so that github doesn't start hiding all the useful comments.

**Comment by JasonGross** [comment]
Sorry about that

**Comment by JasonGross** [comment]
> You're kinda spamming this PR, please open another for testing so that github doesn't start hiding all the useful comments.

Sorry for the additional spam.  I'm waiting for the checks in https://github.com/coq/coq/pull/14328 to complete, and would like to see the response now.  I'll delete this comment (and coqbot's response) in a minute, so that github doesn't hide useful comments.

@coqbot ci minimize library:ci-mathcomp plugin:ci-elpi

**Comment by JasonGross** [comment]
CI minimization now works, at least to some extent!

@coqbot ci minimize ci-mathcomp

(Spoiler at https://github.com/coq/coq/pull/14328#issuecomment-846289071 (The minimized file is already there))

**Comment by JasonGross** [comment]
This should hopefully work now.  @coqbot ci minimize ci-mathcomp

**Comment by mattam82** [comment]
@JasonGross thanks a whole bunch! I'll have a look this week.

**Comment by mattam82** [comment]
@gares You might help tell me why the rewrite used to succeed here:

```coq
x: T1
s: seq T1
IHs: {in s &, injective f} -> uniq (T:=T2) (map f s) = uniq (T:=T1) s
injf: {in x :: s &, injective f}
y: T1
sy: y \in s
------------------------------------
(true -> y \in x :: s -> x = y) -> x \in s
```

`rewrite mem_behead` used to work. I don't understand exactly how rewriting works here with lemmas of the shape `{subset foo <= bar}`

**Comment by mattam82** [comment]
I don't need to know exactly, because the bug is probably that ssr's rewrite does not realize that setoid rewriting should not be tried here, but I'm still curious :)

**Comment by mattam82** [comment]
@JasonGross that was really helpful, I could fix the bug in no time. `math-comp` and other contribs using mixed math-comp/setoid rewriting should work now.

**Comment by JasonGross** [comment]
Unfortunately the way things are currently set up you need to wait for the whole pipeline to finish to minimize any of the jobs.  I'm considering changing this (or at least changing this for explicit requests).

**Comment by mattam82** [comment]
@robbertkrebbers @RalfJung the iris error is a bit more subtle. The categorization of the `!` mode is done as follows:
```ocaml
let head_evar sigma c =
    let rec hrec c = match EConstr.kind sigma c with
      | Evar (evk,_)   -> evk
      | Case (_,_,_,_,_,c,_) -> hrec c
      | App (c,_)      -> hrec c
      | Cast (c,_,_)   -> hrec c
      | Proj (p, c)    -> hrec c
      | _              -> raise Evarutil.NoHeadEvar
    in
    hrec c```

That is, `ofe_car ?X` is considered to have an evar at its head, as `ofe_car` is a projection of the `?X` record, hence `RewriteRelation (ofe_car ?X) (dist ..)` is considered stuck in mode `! -`. I'm not sure this is really expected, what do you think?

**Comment by mattam82** [comment]
Notably, this is not uniform with the `dist` projection, which, as a constant, can be applied to `?X` and considered to have no evar at its head, so the `- !` mode works to get the constraint unstuck.

**Comment by JasonGross** [comment]
@coqbot ci minimize

**Comment by mattam82** [comment]
I think `!` should only disallow `?X t1 ... tn`, up to casts. But that change might have quite some impact, I'll make a PR to test.

**Comment by robbertkrebbers** [comment]
> I think ! should only disallow ?X t1 ... tn, up to casts. But that change might have quite some impact, I'll make a PR to test.

That seems reasonable. The current approach where projections are treated specially is kind of odd.

I have no intuition about the impact of this change.

**Comment by JasonGross** [comment]
quick chick minimization seems to have worked, I'll have to debug what's up with the other ones

**Comment by mattam82** [comment]
@robbertkrebbers it was special for projections and cases (the scrutinees were used in both cases). PR #14392 fixes that, let's see how it fares on the CI.

**Comment by JasonGross** [comment]
Iris minimization now works:
Minimized File /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra/ofe.v (from ci-iris) (full log [on GitHub Actions](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/880241549))

<details><summary>Minimized Coq File</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe") -*- *)
(* File reduced by coq-bug-finder from original input, then from 1726 lines to 63 lines, then from 117 lines to 133 lines, then from 137 lines to 64 lines, then from 115 lines to 134 lines, then from 138 lines to 69 lines, then from 96 lines to 750 lines, then from 752 lines to 101 lines, then from 126 lines to 357 lines, then from 361 lines to 116 lines, then from 140 lines to 190 lines, then from 194 lines to 125 lines, then from 148 lines to 1547 lines, then from 1547 lines to 152 lines, then from 156 lines to 152 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.12.0
   coqtop version 8.14+alpha *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.ssr.ssreflect.
Require Coq.Lists.List.
Require Coq.Unicode.Utf8.
Module Export stdpp_DOT_base.
Module Export stdpp.
Module Export base.
Export Coq.Classes.Morphisms.
Export Coq.Setoids.Setoid.
Export Coq.Unicode.Utf8.

Global Generalizable All Variables.

Declare Scope stdpp_scope.
Global Open Scope stdpp_scope.

Notation "(=)" := eq (only parsing) : stdpp_scope.
Notation "(=@{ A } )" := (@eq A) (only parsing) : stdpp_scope.

Class Equiv A := equiv: relation A.

Infix "≡" := equiv (at level 70, no associativity) : stdpp_scope.

Class Decision (P : Prop) := decide : {P} + {¬P}.
Global Arguments decide _ {_} : simpl never, assert.

Class RelDecision {A B} (R : A → B → Prop) :=
  decide_rel x y :> Decision (R x y).
Notation EqDecision A := (RelDecision (=@{A})).

Class Inj {A B} (R : relation A) (S : relation B) (f : A → B) : Prop :=
  inj x y : S (f x) (f y) → R x y.

Lemma not_symmetry `{R : relation A, !Symmetric R} x y : ¬R x y → ¬R y x.
admit.
Defined.
End base.

End stdpp.

End stdpp_DOT_base.
Module Export stdpp_DOT_decidable.
Module Export stdpp.
Module Export decidable.
Notation cast_if S := (if S then left _ else right _).

Program Definition inj_eq_dec `{EqDecision A} {B} (f : B → A)
  `{!Inj (=) (=) f} : EqDecision B := λ x y, cast_if (decide (f x = f y)).
Solve Obligations with firstorder congruence.

End decidable.

End stdpp.

End stdpp_DOT_decidable.
Module Export stdpp_DOT_tactics.
Module Export stdpp.
Module Export tactics.

Ltac fast_done :=
  solve
    [ eassumption
    | symmetry; eassumption
    | apply not_symmetry; eassumption
    | reflexivity ].

Ltac done :=
  solve
  [ repeat first
    [ fast_done
    | solve [trivial]

    | progress intros
    | solve [symmetry; trivial]
    | solve [apply not_symmetry; trivial]
    | discriminate
    | contradiction
    | split
    | match goal with H : ¬_ |- _ => case H; clear H; fast_done end ]
  ].

End tactics.

End stdpp.

End stdpp_DOT_tactics.
Module Export stdpp.
Module Export prelude.
Export stdpp.tactics.

End prelude.
Export Coq.ssr.ssreflect.
Export stdpp.prelude.
Set Primitive Projections.

Class Dist A := dist : nat → relation A.
Notation "x ≡{ n }≡ y" := (dist n x y)
  (at level 70, n at next level, format "x  ≡{ n }≡  y").
Notation NonExpansive f := (∀ n, Proper (dist n ==> dist n) f).

Record OfeMixin A `{Equiv A, Dist A} := {
  mixin_equiv_dist (x y : A) : x ≡ y ↔ ∀ n, x ≡{n}≡ y;
  mixin_dist_equivalence n : Equivalence (@dist A _ n);
  mixin_dist_S n (x y : A) : x ≡{S n}≡ y → x ≡{n}≡ y
}.

Structure ofe := Ofe {
  ofe_car :> Type;
  ofe_equiv : Equiv ofe_car;
  ofe_dist : Dist ofe_car;
  ofe_mixin : OfeMixin ofe_car
}.
Global Hint Extern 0 (Equiv _) => eapply (@ofe_equiv _) : typeclass_instances.
Global Hint Extern 0 (Dist _) => eapply (@ofe_dist _) : typeclass_instances.

Section ofe_mixin.
  Context {A : ofe}.
  Implicit Types x y : A.
  Lemma equiv_dist x y : x ≡ y ↔ ∀ n, x ≡{n}≡ y.
admit.
Defined.
  Global Instance dist_equivalence n : Equivalence (@dist A _ n).
admit.
Defined.
End ofe_mixin.

Record chain (A : ofe) := {
  chain_car :> nat → A;
  chain_cauchy n i : n ≤ i → chain_car i ≡{n}≡ chain_car n
}.

Program Definition chain_map {A B : ofe} (f : A → B)
    `{!NonExpansive f} (c : chain A) : chain B :=
  {| chain_car n := f (c n) |}.
Next Obligation.
admit.
Defined.

Notation Compl A := (chain A%type → A).
Class Cofe (A : ofe) := {
  compl : Compl A;
  conv_compl n c : compl c ≡{n}≡ c n;
}.

Lemma compl_chain_map `{Cofe A, Cofe B} (f : A → B) c `(NonExpansive f) :
  compl (chain_map f c) ≡ f (compl c).
Proof.
apply equiv_dist=>n.
by rewrite !conv_compl.
```
</details>

<details><summary>Intermediate Coq File (useful for debugging if minimization did not go as far as you wanted)</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe") -*- *)
(* File reduced by coq-bug-finder from original input, then from 1726 lines to 63 lines, then from 117 lines to 133 lines, then from 137 lines to 64 lines, then from 115 lines to 134 lines, then from 138 lines to 69 lines, then from 96 lines to 750 lines, then from 752 lines to 101 lines, then from 126 lines to 357 lines, then from 361 lines to 116 lines, then from 140 lines to 190 lines, then from 194 lines to 125 lines, then from 148 lines to 1547 lines, then from 1547 lines to 152 lines, then from 156 lines to 130 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.12.0
   coqtop version 8.14+alpha *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.ssr.ssreflect.
Require Coq.Lists.List.
Require Coq.Unicode.Utf8.
Module Export stdpp_DOT_base.
Module Export stdpp.
Module Export base.
Export Coq.Classes.Morphisms.
Export Coq.Setoids.Setoid.
Export Coq.Unicode.Utf8.

Global Generalizable All Variables.

Declare Scope stdpp_scope.
Global Open Scope stdpp_scope.

Notation "(=)" := eq (only parsing) : stdpp_scope.
Notation "(=@{ A } )" := (@eq A) (only parsing) : stdpp_scope.

Class Equiv A := equiv: relation A.

Infix "≡" := equiv (at level 70, no associativity) : stdpp_scope.

Class Decision (P : Prop) := decide : {P} + {¬P}.
Global Arguments decide _ {_} : simpl never, assert.

Class RelDecision {A B} (R : A → B → Prop) :=
  decide_rel x y :> Decision (R x y).
Notation EqDecision A := (RelDecision (=@{A})).

Class Inj {A B} (R : relation A) (S : relation B) (f : A → B) : Prop :=
  inj x y : S (f x) (f y) → R x y.

Lemma not_symmetry `{R : relation A, !Symmetric R} x y : ¬R x y → ¬R y x.
admit.
Defined.
End base.

End stdpp.

End stdpp_DOT_base.
Module Export stdpp_DOT_decidable.
Module Export stdpp.
Module Export decidable.
Notation cast_if S := (if S then left _ else right _).

Program Definition inj_eq_dec `{EqDecision A} {B} (f : B → A)
  `{!Inj (=) (=) f} : EqDecision B := λ x y, cast_if (decide (f x = f y)).
Solve Obligations with firstorder congruence.

End decidable.

End stdpp.

End stdpp_DOT_decidable.
Module Export stdpp_DOT_tactics.
Module Export stdpp.
Module Export tactics.

End tactics.

End stdpp.

End stdpp_DOT_tactics.
Module Export stdpp.
Module Export prelude.
Export stdpp.tactics.

End prelude.
Export Coq.ssr.ssreflect.
Export stdpp.prelude.
Set Primitive Projections.

Class Dist A := dist : nat → relation A.
Notation "x ≡{ n }≡ y" := (dist n x y)
  (at level 70, n at next level, format "x  ≡{ n }≡  y").
Notation NonExpansive f := (∀ n, Proper (dist n ==> dist n) f).

Record OfeMixin A `{Equiv A, Dist A} := {
  mixin_equiv_dist (x y : A) : x ≡ y ↔ ∀ n, x ≡{n}≡ y;
  mixin_dist_equivalence n : Equivalence (@dist A _ n);
  mixin_dist_S n (x y : A) : x ≡{S n}≡ y → x ≡{n}≡ y
}.

Structure ofe := Ofe {
  ofe_car :> Type;
  ofe_equiv : Equiv ofe_car;
  ofe_dist : Dist ofe_car;
  ofe_mixin : OfeMixin ofe_car
}.
Global Hint Extern 0 (Equiv _) => eapply (@ofe_equiv _) : typeclass_instances.
Global Hint Extern 0 (Dist _) => eapply (@ofe_dist _) : typeclass_instances.

Section ofe_mixin.
  Context {A : ofe}.
  Implicit Types x y : A.
  Lemma equiv_dist x y : x ≡ y ↔ ∀ n, x ≡{n}≡ y.
admit.
Defined.
  Global Instance dist_equivalence n : Equivalence (@dist A _ n).
admit.
Defined.
End ofe_mixin.

Record chain (A : ofe) := {
  chain_car :> nat → A;
  chain_cauchy n i : n ≤ i → chain_car i ≡{n}≡ chain_car n
}.

Program Definition chain_map {A B : ofe} (f : A → B)
    `{!NonExpansive f} (c : chain A) : chain B :=
  {| chain_car n := f (c n) |}.
Next Obligation.
admit.
Defined.

Notation Compl A := (chain A%type → A).
Class Cofe (A : ofe) := {
  compl : Compl A;
  conv_compl n c : compl c ≡{n}≡ c n;
}.

Lemma compl_chain_map `{Cofe A, Cofe B} (f : A → B) c `(NonExpansive f) :
  compl (chain_map f c) ≡ f (compl c).
Proof.
apply equiv_dist=>n.
by rewrite !conv_compl.
```
</details>

<details><summary>Build Log (truncated to last 8.0KiB; full 3.8MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/880241549">GitHub Actions Artifacts</a> under <code>build.log</code>)</summary>

```
dpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_vector.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_pmap.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_stringmap.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_fin_sets.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_mapset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_proof_irrel.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_hashset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_pretty.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_countable.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_orders.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_natmap.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_strings.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_relations.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_sets.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_listset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_streams.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_gmap.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_gmultiset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_prelude.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_listset_nodup.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_finite.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_numbers.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_nmap.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_zmap.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_coPset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_coGset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_lexico.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_propset.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_decidable.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_list.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_list_numbers.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_functions.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_hlist.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_sorting.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_infinite.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_nat_cancel.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_namespaces.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_telescopes.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
INSTALL theories/.coq-native/Nstdpp_binders.cmxs /builds/coq/coq/_install_ci/lib/coq//user-contrib/stdpp//.coq-native
make[3]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/stdpp'
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[3]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/stdpp'
make[2]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/stdpp'
make[1]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/stdpp'
+ cd /github/workspace/builds/coq/coq-failing/_build_ci/iris
+ make
+ '[' -z x ']'
+ command make
+ make
make[1]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/iris'
make[2]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/iris'
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin//coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
COQC iris/algebra/ofe.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -q -w -notation-overridden -w -redundant-canonical-projection -w -deprecated-native-compiler-option -native-compiler ondemand -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude iris.prelude -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra iris.algebra -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic iris.si_logic -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi iris.bi -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode iris.proofmode -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic iris.base_logic -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic iris.program_logic -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang iris.heap_lang -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging iris.staging -Q /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated iris.deprecated /github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra/ofe.v 
File "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra/ofe.v", line 136, characters 28-50:
Error: not a rewritable relation: (ofe_dist _ _ (compl _) (_ _))
in rule conv_compl

Command exited with non-zero status 1
iris/algebra/ofe.vo (real: 0.75, user: 0.46, sys: 0.26, mem: 443444 ko)
Makefile.coq:762: recipe for target 'iris/algebra/ofe.vo' failed
make[3]: *** [iris/algebra/ofe.vo] Error 1
Makefile.coq:385: recipe for target 'all' failed
make[2]: *** [all] Error 2
make[2]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/iris'
Makefile:3: recipe for target 'all' failed
make[1]: *** [all] Error 2
make[1]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/iris'
Makefile.ci:109: recipe for target 'ci-iris' failed
make: *** [ci-iris] Error 2
/github/workspace/builds/coq /github/workspace
::endgroup::
```
</details>

<details><summary>Minimization Log (truncated to last 8.0KiB; full 4.3MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/880241549">GitHub Actions Artifacts</a> under <code>bug.log</code>)</summary>

```
s/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe" "/tmp/tmpn3do7dg7.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe" "/tmp/tmp_4i6kthc.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe" "/tmp/tmp8i6gqw46.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe" "/tmp/tmpeiaxqgs1.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe" "/tmp/tmp_ucwo4sm.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/prelude" "iris.prelude" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/algebra" "iris.algebra" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/si_logic" "iris.si_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/bi" "iris.bi" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/proofmode" "iris.proofmode" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/base_logic" "iris.base_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris/program_logic" "iris.program_logic" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/stdpp" "stdpp" "-top" "ofe" "/tmp/tmp8oie80ea.v" "-q"
Line removal unsuccessful.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Non-fatal error: Failed to remove Ltac and preserve the error.  The alternate coqc (/github/workspace/builds/coq/coq-passing/_install_ci/bin/coqc.orig) was supposed to pass, but instead emitted an error.  
Writing intermediate code to /github/workspace/cwd/tmp.v.
The new error was:
File "/tmp/tmpvz8w9tk3.v", line 128, characters 0-22:
Error: No applicable tactic.



I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to remove empty sections

No empty sections to remove.

Now, I will attempt to strip repeated newlines and trailing spaces from this file...

No strippable newlines or spaces.
```
</details>

If you have any comments on your experience of the minimizer, please share them in a reply (possibly tagging `@JasonGross`).
If you believe there's a bug in the bug minimizer, please report it on [the bug minimizer issue tracker](https://github.com/JasonGross/coq-tools/issues).

_Originally posted by @coqbot-app[bot] in https://github.com/coq/coq/issues/14328#issuecomment-849188646_

**Comment by JasonGross** [comment]
Equations minimization now works (after fixing a mismatch between byte locations and character locations):
Minimized File /github/workspace/builds/coq/coq-failing/_build_ci/equations/examples/AlmostFull.v (from ci-equations) (full log [on GitHub Actions](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/882764918))

<details><summary>Minimized Coq File</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/src" "-top" "AlmostFull") -*- *)
(* File reduced by coq-bug-finder from original input, then from 1462 lines to 81 lines, then from 125 lines to 247 lines, then from 251 lines to 84 lines, then from 124 lines to 359 lines, then from 363 lines to 84 lines, then from 124 lines to 176 lines, then from 180 lines to 84 lines, then from 124 lines to 297 lines, then from 300 lines to 84 lines, then from 88 lines to 84 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.05.0
   coqtop version 8.14+alpha *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Equations.Prop.Equations.
Require Coq.Unicode.Utf8.
Require Coq.micromega.Lia.
Require Coq.ssr.ssreflect.

Inductive fin : nat -> Set :=
| fz : forall {n}, fin (S n)
| fs : forall {n}, fin n -> fin (S n).

Import Equations.Prop.Equations.
Import Coq.Relations.Relations.
Import Coq.Unicode.Utf8.
Import Coq.Classes.Morphisms.
Import Coq.Arith.Arith.

Section AlmostFull.
  Context {X : Type}.

  Inductive WFT : Type :=
  | ZT : WFT
  | SUP : (X -> WFT) -> WFT.

  Fixpoint SecureBy (R : X -> X -> Prop) (p : WFT) : Prop :=
    match p with
    | ZT => forall x y, R x y
    | SUP f => forall x, SecureBy (fun y z => R y z \/ R x y) (f x)
    end.

  Definition almost_full (R : X -> X -> Prop) := exists p, SecureBy R p.

End AlmostFull.

Class AlmostFull {X} (R : X -> X -> Prop) :=
  is_almost_full : almost_full R.

#[export] Instance proper_af X : Proper (relation_equivalence ==> iff) (@AlmostFull X).
admit.
Defined.
Import Coq.ssr.ssreflect.

  Definition subgraph k k' := fin k -> option (bool * fin k').
  Definition graph k := subgraph k k.

  Equations k_tuple_type (k : nat) : Type :=
  k_tuple_type 0 := unit;
  k_tuple_type (S n) := nat * k_tuple_type n.

  Equations k_tuple_val {k : nat} (f : fin k) (t : k_tuple_type k) : nat :=
    k_tuple_val fz (x, _) := x;
    k_tuple_val (fs f) (_, t) := k_tuple_val f t.

  Equations k_related (k k' : nat) (G : subgraph k k') : k_tuple_type k -> k_tuple_type k' -> Prop :=
    k_related 0 k' g := fun _ _ => True;
    k_related (S k) k' g with g fz :=
      { | Some (weight, d) := fun x y =>
                                (if weight then k_tuple_val fz x < k_tuple_val d y
                                 else (Peano.le (k_tuple_val fz x) (k_tuple_val d y))) /\
                                k_related k k' (fun f => g (fs f)) (snd x) y;
        | None => fun _ _ => False }.

  Definition graph_relation {k : nat} (G : graph k) : relation (k_tuple_type k) :=
    k_related k k G.

  Equations TI_graph k : graph k :=
    TI_graph 0 := λ{ | ! } ;
    TI_graph (S n) := fun f => Some (false, f).

  Definition TI k : relation (k_tuple_type k) := graph_relation (TI_graph k).

  Equations intersection k : relation (k_tuple_type k) :=
    intersection 0 := fun x y => True;
    intersection (S n) := fun x y => Nat.le (fst x) (fst y) /\ intersection n (snd x) (snd y).

  Lemma TI_intersection_equiv k : relation_equivalence (TI k) (intersection k).
admit.
Defined.

  #[global] Instance TI_AlmostFull k : AlmostFull (TI k).
  Proof.
    rewrite TI_intersection_equiv.
```
</details>

<details><summary>Intermediate Coq File (useful for debugging if minimization did not go as far as you wanted)</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/src" "-top" "AlmostFull") -*- *)
(* File reduced by coq-bug-finder from original input, then from 1462 lines to 81 lines, then from 125 lines to 247 lines, then from 251 lines to 84 lines, then from 124 lines to 359 lines, then from 363 lines to 84 lines, then from 124 lines to 176 lines, then from 180 lines to 84 lines, then from 124 lines to 297 lines, then from 300 lines to 84 lines, then from 88 lines to 83 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.05.0
   coqtop version 8.14+alpha *)
Tactic Notation "admit" := abstract case proof_admitted.
Require Equations.Prop.Equations.
Require Coq.Unicode.Utf8.
Require Coq.micromega.Lia.
Require Coq.ssr.ssreflect.

Inductive fin : nat -> Set :=
| fz : forall {n}, fin (S n)
| fs : forall {n}, fin n -> fin (S n).

Import Equations.Prop.Equations.
Import Coq.Relations.Relations.
Import Coq.Unicode.Utf8.
Import Coq.Classes.Morphisms.
Import Coq.Arith.Arith.

Section AlmostFull.
  Context {X : Type}.

  Inductive WFT : Type :=
  | ZT : WFT
  | SUP : (X -> WFT) -> WFT.

  Fixpoint SecureBy (R : X -> X -> Prop) (p : WFT) : Prop :=
    match p with
    | ZT => forall x y, R x y
    | SUP f => forall x, SecureBy (fun y z => R y z \/ R x y) (f x)
    end.

  Definition almost_full (R : X -> X -> Prop) := exists p, SecureBy R p.

End AlmostFull.

Class AlmostFull {X} (R : X -> X -> Prop) :=
  is_almost_full : almost_full R.

#[export] Instance proper_af X : Proper (relation_equivalence ==> iff) (@AlmostFull X).
admit.
Defined.
Import Coq.ssr.ssreflect.

  Definition subgraph k k' := fin k -> option (bool * fin k').
  Definition graph k := subgraph k k.

  Equations k_tuple_type (k : nat) : Type :=
  k_tuple_type 0 := unit;
  k_tuple_type (S n) := nat * k_tuple_type n.

  Equations k_tuple_val {k : nat} (f : fin k) (t : k_tuple_type k) : nat :=
    k_tuple_val fz (x, _) := x;
    k_tuple_val (fs f) (_, t) := k_tuple_val f t.

  Equations k_related (k k' : nat) (G : subgraph k k') : k_tuple_type k -> k_tuple_type k' -> Prop :=
    k_related 0 k' g := fun _ _ => True;
    k_related (S k) k' g with g fz :=
      { | Some (weight, d) := fun x y =>
                                (if weight then k_tuple_val fz x < k_tuple_val d y
                                 else (Peano.le (k_tuple_val fz x) (k_tuple_val d y))) /\
                                k_related k k' (fun f => g (fs f)) (snd x) y;
        | None => fun _ _ => False }.

  Definition graph_relation {k : nat} (G : graph k) : relation (k_tuple_type k) :=
    k_related k k G.

  Equations TI_graph k : graph k :=
    TI_graph 0 := λ{ | ! } ;
    TI_graph (S n) := fun f => Some (false, f).

  Definition TI k : relation (k_tuple_type k) := graph_relation (TI_graph k).

  Equations intersection k : relation (k_tuple_type k) :=
    intersection 0 := fun x y => True;
    intersection (S n) := fun x y => Nat.le (fst x) (fst y) /\ intersection n (snd x) (snd y).

  Lemma TI_intersection_equiv k : relation_equivalence (TI k) (intersection k).
admit.
Defined.

  #[global] Instance TI_AlmostFull k : AlmostFull (TI k).
  Proof.
    rewrite TI_intersection_equiv.
```
</details>

<details><summary>Build Log (truncated to last 8.0KiB; full 2.9MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/882764918">GitHub Actions Artifacts</a> under <code>build.log</code>)</summary>

```
rwxr-xr-x 1 root root     1404 May 27 15:54 coqtop.byte
-rwxr-xr-x 1 root root 42202949 May 26 20:15 coqtop.byte.orig
-rwxr-xr-x 1 root root     1403 May 27 15:54 coqtop.opt
-rwxr-xr-x 1 root root 24898992 May 26 20:15 coqtop.opt.orig
-rwxr-xr-x 1 root root 24898992 May 26 20:15 coqtop.orig
-rwxr-xr-x 1 root root     1398 May 27 15:54 coqwc
-rwxr-xr-x 1 root root  1330928 May 26 20:15 coqwc.orig
-rwxr-xr-x 1 root root     1403 May 27 15:54 coqworkmgr
-rwxr-xr-x 1 root root  2032352 May 26 20:15 coqworkmgr.orig
-rwxr-xr-x 1 root root     1401 May 27 15:54 csdpcert
-rwxr-xr-x 1 root root  3050752 May 26 20:15 csdpcert.orig
-rwxr-xr-x 1 root root     1401 May 27 15:54 fake_ide
-rwxr-xr-x 1 root root  4731200 May 26 20:15 fake_ide.orig
-rwxr-xr-x 1 root root     1404 May 27 15:54 ocamllibdep
-rwxr-xr-x 1 root root  1682568 May 26 20:15 ocamllibdep.orig
-rwxr-xr-x 1 root root     1399 May 27 15:54 votour
-rwxr-xr-x 1 root root  2157808 May 26 20:15 votour.orig
++ CI_BUILD_DIR=/github/workspace/builds/coq/coq-failing/_build_ci
++ CI_INSTALL_DIR=/github/workspace/builds/coq/coq-failing/_install_ci
++ ls -l /github/workspace/builds/coq/coq-failing/_build_ci
total 4
drwxr-xr-x 9 root root 4096 May 26 20:19 equations
++ declare -A overlays
++ set +x
+ git_download equations
+ local project=equations
+ local dest=/github/workspace/builds/coq/coq-failing/_build_ci/equations
+ local giturl_var=equations_CI_GITURL
+ local giturl=https://github.com/mattam82/Coq-Equations
+ local ref_var=equations_CI_REF
+ local ref=master
+ local ov_url=
+ local ov_ref=
+ '[' -d /github/workspace/builds/coq/coq-failing/_build_ci/equations ']'
+ echo 'Warning: download and unpacking of equations skipped because /github/workspace/builds/coq/coq-failing/_build_ci/equations already exists.'
Warning: download and unpacking of equations skipped because /github/workspace/builds/coq/coq-failing/_build_ci/equations already exists.
+ cd /github/workspace/builds/coq/coq-failing/_build_ci/equations
+ export 'COQEXTRAFLAGS=-native-compiler no'
+ COQEXTRAFLAGS='-native-compiler no'
+ cd /github/workspace/builds/coq/coq-failing/_build_ci/equations
+ ./configure.sh coq
+ make ci
+ '[' -z x ']'
+ command make ci
+ make ci
make[1]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
make -f Makefile.coq all 
make[2]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin//coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[3]: Nothing to be done for 'real-all'.
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[2]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
make test-suite examples
make[2]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
make -f Makefile.coq
make[3]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin//coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[4]: Nothing to be done for 'real-all'.
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[3]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
test -f Makefile.hott && make -f Makefile.hott || true
cd test-suite && make
make[3]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations/test-suite'
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin//coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[4]: Nothing to be done for 'real-all'.
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
make[3]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations/test-suite'
cd examples && make
make[3]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples'
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin//coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
COQC AlmostFull.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -q -w -notation-overridden -w -notation-overridden -w -deprecated-native-compiler-option -native-compiler no -I /github/workspace/builds/coq/coq-failing/_build_ci/equations/src -Q /github/workspace/builds/coq/coq-failing/_build_ci/equations/examples Examples -R /github/workspace/builds/coq/coq-failing/_build_ci/equations/theories Equations /github/workspace/builds/coq/coq-failing/_build_ci/equations/examples/AlmostFull.v 
     = Some (true, 0)
     : option (bool * fin 2)
     = (nat * (nat * unit))%type
     : Type
File "/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples/AlmostFull.v", line 988, characters 4-33:
Error:
not a rewritable relation: ((TI _ _ _ → intersection _ _ _)
                            ∧ (intersection _ _ _ → TI _ _ _))
in rule TI_intersection_equiv

Command exited with non-zero status 1
AlmostFull.vo (real: 6.85, user: 6.61, sys: 0.23, mem: 448876 ko)
Makefile:762: recipe for target 'AlmostFull.vo' failed
make[4]: *** [AlmostFull.vo] Error 1
Makefile:385: recipe for target 'all' failed
make[3]: *** [all] Error 2
make[3]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples'
Makefile:41: recipe for target 'examples' failed
make[2]: *** [examples] Error 2
make[2]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
Makefile:78: recipe for target 'ci-local' failed
make[1]: *** [ci-local] Error 2
make[1]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/equations'
Makefile.ci:109: recipe for target 'ci-equations' failed
make: *** [ci-equations] Error 2
/github/workspace/builds/coq /github/workspace
::endgroup::
```
</details>

<details><summary>Minimization Log (truncated to last 8.0KiB; full 862KiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/882764918">GitHub Actions Artifacts</a> under <code>bug.log</code>)</summary>

```
ode.Utf8_core ([Errno 2] No such file or directory: 'Coq/Unicode/Utf8_core.v')
Recursively Searched: (('/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories', 'Equations'),)
Nonrecursively Searched: (('/github/workspace/cwd', 'Top'), ('/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples', 'Examples'), ('/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2', 'Ltac2'))
getting Coq/extraction/Extraction.v

Warning: Cannot inline Coq.extraction.Extraction ([Errno 2] No such file or directory: 'Coq/extraction/Extraction.v')
Recursively Searched: (('/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories', 'Equations'),)
Nonrecursively Searched: (('/github/workspace/cwd', 'Top'), ('/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples', 'Examples'), ('/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2', 'Ltac2'))

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/src" "-top" "AlmostFull" "/tmp/tmp5jbc4c4q.v" "-q"

Running command: "/github/workspace/builds/coq/coq-passing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-passing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-passing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-passing/_install_ci/lib/coq/user-contrib/Equations" "Equations" "-Q" "/github/workspace/builds/coq/coq-passing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-passing/_build_ci/equations/src" "-top" "AlmostFull" "/tmp/tmpi20srwh2.v" "-q"

Sanity check passed.

Now, I will attempt to strip repeated newlines and trailing spaces from this file...

No strippable newlines or spaces.

Now, I will attempt to strip the comments from this file...

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/src" "-top" "AlmostFull" "/tmp/tmpl8taw78h.v" "-q"

Running command: "/github/workspace/builds/coq/coq-passing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-passing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-passing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-passing/_install_ci/lib/coq/user-contrib/Equations" "Equations" "-Q" "/github/workspace/builds/coq/coq-passing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-passing/_build_ci/equations/src" "-top" "AlmostFull" "/tmp/tmpff89ai_h.v" "-q"

Succeeded in stripping comments.

In order to efficiently manipulate the file, I have to break it into statements.  I will attempt to do this by matching on periods.

Splitting successful.

I will now attempt to remove any lines after the line which generates the error.

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/theories" "Equations" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/examples" "Examples" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-I" "/github/workspace/builds/coq/coq-failing/_build_ci/equations/src" "-top" "AlmostFull" "/tmp/tmpwy1b7kr5.v" "-q"

No lines to trim.

In order to efficiently manipulate the file, I have to break it into definitions.  I will now attempt to do this.
Sending statements to coqtop...
Done.  Splitting to definitions...

Splitting to definitions successful.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Ltac removal successful.

I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to replace Qeds with Admitteds

Admitting Qeds successful.
Failed to do everything at once; trying one at a time.
Admitting Qeds unsuccessful.
No successful changes.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Ltac removal successful.

I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to admit [abstract ...]s

Admitting [abstract ...] successful.

Admitting [abstract ...] successful.
Admitting [abstract ...] unsuccessful.
Admitting [abstract ...] unsuccessful.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Ltac removal successful.

I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to admit lemmas

Admitting lemmas successful.
Failed to do everything at once; trying one at a time.
Admitting lemmas unsuccessful.
No successful changes.

I will now attempt to admit definitions

Non-fatal error: Failed to admit definitions and preserve the error.  
Writing intermediate code to /github/workspace/cwd/tmp.v.
The new error was:
File "/tmp/.coq-native/Ntmp7e508c9l.native", line 1:
Error: /github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/../coq-core/kernel/nativevalues.cmi
       is not a compiled interface for this version of OCaml.
It seems to be for an older version of OCaml.
Error: Native compiler exited with status 2


Failed to do everything at once; trying one at a time.
Admitting definitions unsuccessful.
No successful changes.

I will now attempt to export modules
Module exportation unsuccessful.

I will now attempt to split imports and exports
Import/Export splitting unsuccessful.

I will now attempt to split := definitions
One-line definition splitting unsuccessful.

I will now attempt to remove all lines, one at a time
Line removal unsuccessful.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Ltac removal successful.

I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to remove empty sections

No empty sections to remove.

Now, I will attempt to strip repeated newlines and trailing spaces from this file...

No strippable newlines or spaces.
```
</details>

If you have any comments on your experience of the minimizer, please share them in a reply (possibly tagging `@JasonGross`).
If you believe there's a bug in the bug minimizer, please report it on [the bug minimizer issue tracker](https://github.com/JasonGross/coq-tools/issues).

_Originally posted by @coqbot-app[bot] in https://github.com/coq/coq/issues/14328#issuecomment-849763529_

**Comment by JasonGross** [comment]
Perennial minimization now works.  fourcolor minimization is blocked on my figuring out how to handle Windows line endings on Linux (there are files checked in with `\r\n` line endings, coq reports locations in bytes, which means that reading the files in as text won't work).
Minimized File /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris/algebra/ofe.v (from ci-perennial) (full log [on GitHub Actions](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/885905435))

<details><summary>Minimized Coq File</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe") -*- *)
(* File reduced by coq-bug-finder from original input, then from 1726 lines to 63 lines, then from 117 lines to 133 lines, then from 137 lines to 64 lines, then from 115 lines to 134 lines, then from 138 lines to 69 lines, then from 96 lines to 750 lines, then from 752 lines to 101 lines, then from 126 lines to 371 lines, then from 375 lines to 116 lines, then from 140 lines to 190 lines, then from 194 lines to 125 lines, then from 148 lines to 1547 lines, then from 1547 lines to 152 lines, then from 156 lines to 152 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.12.0
   coqtop version 8.14+alpha *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.ssr.ssreflect.
Require Coq.Lists.List.
Require Coq.Unicode.Utf8.
Module Export stdpp_DOT_base.
Module Export stdpp.
Module Export base.
Export Coq.Classes.Morphisms.
Export Coq.Setoids.Setoid.
Export Coq.Unicode.Utf8.

Global Generalizable All Variables.

Declare Scope stdpp_scope.
Global Open Scope stdpp_scope.

Notation "(=)" := eq (only parsing) : stdpp_scope.
Notation "(=@{ A } )" := (@eq A) (only parsing) : stdpp_scope.

Class Equiv A := equiv: relation A.

Infix "≡" := equiv (at level 70, no associativity) : stdpp_scope.

Class Decision (P : Prop) := decide : {P} + {¬P}.
Global Arguments decide _ {_} : simpl never, assert.

Class RelDecision {A B} (R : A → B → Prop) :=
  decide_rel x y :> Decision (R x y).
Notation EqDecision A := (RelDecision (=@{A})).

Class Inj {A B} (R : relation A) (S : relation B) (f : A → B) : Prop :=
  inj x y : S (f x) (f y) → R x y.

Lemma not_symmetry `{R : relation A, !Symmetric R} x y : ¬R x y → ¬R y x.
admit.
Defined.
End base.

End stdpp.

End stdpp_DOT_base.
Module Export stdpp_DOT_decidable.
Module Export stdpp.
Module Export decidable.
Notation cast_if S := (if S then left _ else right _).

Program Definition inj_eq_dec `{EqDecision A} {B} (f : B → A)
  `{!Inj (=) (=) f} : EqDecision B := λ x y, cast_if (decide (f x = f y)).
Solve Obligations with firstorder congruence.

End decidable.

End stdpp.

End stdpp_DOT_decidable.
Module Export stdpp_DOT_tactics.
Module Export stdpp.
Module Export tactics.

Ltac fast_done :=
  solve
    [ eassumption
    | symmetry; eassumption
    | apply not_symmetry; eassumption
    | reflexivity ].

Ltac done :=
  solve
  [ repeat first
    [ fast_done
    | solve [trivial]

    | progress intros
    | solve [symmetry; trivial]
    | solve [apply not_symmetry; trivial]
    | discriminate
    | contradiction
    | split
    | match goal with H : ¬_ |- _ => case H; clear H; fast_done end ]
  ].

End tactics.

End stdpp.

End stdpp_DOT_tactics.
Module Export stdpp.
Module Export prelude.
Export stdpp.tactics.

End prelude.
Export Coq.ssr.ssreflect.
Export stdpp.prelude.
Set Primitive Projections.

Class Dist A := dist : nat → relation A.
Notation "x ≡{ n }≡ y" := (dist n x y)
  (at level 70, n at next level, format "x  ≡{ n }≡  y").
Notation NonExpansive f := (∀ n, Proper (dist n ==> dist n) f).

Record OfeMixin A `{Equiv A, Dist A} := {
  mixin_equiv_dist (x y : A) : x ≡ y ↔ ∀ n, x ≡{n}≡ y;
  mixin_dist_equivalence n : Equivalence (@dist A _ n);
  mixin_dist_S n (x y : A) : x ≡{S n}≡ y → x ≡{n}≡ y
}.

Structure ofe := Ofe {
  ofe_car :> Type;
  ofe_equiv : Equiv ofe_car;
  ofe_dist : Dist ofe_car;
  ofe_mixin : OfeMixin ofe_car
}.
Global Hint Extern 0 (Equiv _) => eapply (@ofe_equiv _) : typeclass_instances.
Global Hint Extern 0 (Dist _) => eapply (@ofe_dist _) : typeclass_instances.

Section ofe_mixin.
  Context {A : ofe}.
  Implicit Types x y : A.
  Lemma equiv_dist x y : x ≡ y ↔ ∀ n, x ≡{n}≡ y.
admit.
Defined.
  Global Instance dist_equivalence n : Equivalence (@dist A _ n).
admit.
Defined.
End ofe_mixin.

Record chain (A : ofe) := {
  chain_car :> nat → A;
  chain_cauchy n i : n ≤ i → chain_car i ≡{n}≡ chain_car n
}.

Program Definition chain_map {A B : ofe} (f : A → B)
    `{!NonExpansive f} (c : chain A) : chain B :=
  {| chain_car n := f (c n) |}.
Next Obligation.
admit.
Defined.

Notation Compl A := (chain A%type → A).
Class Cofe (A : ofe) := {
  compl : Compl A;
  conv_compl n c : compl c ≡{n}≡ c n;
}.

Lemma compl_chain_map `{Cofe A, Cofe B} (f : A → B) c `(NonExpansive f) :
  compl (chain_map f c) ≡ f (compl c).
Proof.
apply equiv_dist=>n.
by rewrite !conv_compl.
```
</details>

<details><summary>Intermediate Coq File (useful for debugging if minimization did not go as far as you wanted)</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe") -*- *)
(* File reduced by coq-bug-finder from original input, then from 1726 lines to 63 lines, then from 117 lines to 133 lines, then from 137 lines to 64 lines, then from 115 lines to 134 lines, then from 138 lines to 69 lines, then from 96 lines to 750 lines, then from 752 lines to 101 lines, then from 126 lines to 371 lines, then from 375 lines to 116 lines, then from 140 lines to 190 lines, then from 194 lines to 125 lines, then from 148 lines to 1547 lines, then from 1547 lines to 152 lines, then from 156 lines to 130 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.12.0
   coqtop version 8.14+alpha *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.ssr.ssreflect.
Require Coq.Lists.List.
Require Coq.Unicode.Utf8.
Module Export stdpp_DOT_base.
Module Export stdpp.
Module Export base.
Export Coq.Classes.Morphisms.
Export Coq.Setoids.Setoid.
Export Coq.Unicode.Utf8.

Global Generalizable All Variables.

Declare Scope stdpp_scope.
Global Open Scope stdpp_scope.

Notation "(=)" := eq (only parsing) : stdpp_scope.
Notation "(=@{ A } )" := (@eq A) (only parsing) : stdpp_scope.

Class Equiv A := equiv: relation A.

Infix "≡" := equiv (at level 70, no associativity) : stdpp_scope.

Class Decision (P : Prop) := decide : {P} + {¬P}.
Global Arguments decide _ {_} : simpl never, assert.

Class RelDecision {A B} (R : A → B → Prop) :=
  decide_rel x y :> Decision (R x y).
Notation EqDecision A := (RelDecision (=@{A})).

Class Inj {A B} (R : relation A) (S : relation B) (f : A → B) : Prop :=
  inj x y : S (f x) (f y) → R x y.

Lemma not_symmetry `{R : relation A, !Symmetric R} x y : ¬R x y → ¬R y x.
admit.
Defined.
End base.

End stdpp.

End stdpp_DOT_base.
Module Export stdpp_DOT_decidable.
Module Export stdpp.
Module Export decidable.
Notation cast_if S := (if S then left _ else right _).

Program Definition inj_eq_dec `{EqDecision A} {B} (f : B → A)
  `{!Inj (=) (=) f} : EqDecision B := λ x y, cast_if (decide (f x = f y)).
Solve Obligations with firstorder congruence.

End decidable.

End stdpp.

End stdpp_DOT_decidable.
Module Export stdpp_DOT_tactics.
Module Export stdpp.
Module Export tactics.

End tactics.

End stdpp.

End stdpp_DOT_tactics.
Module Export stdpp.
Module Export prelude.
Export stdpp.tactics.

End prelude.
Export Coq.ssr.ssreflect.
Export stdpp.prelude.
Set Primitive Projections.

Class Dist A := dist : nat → relation A.
Notation "x ≡{ n }≡ y" := (dist n x y)
  (at level 70, n at next level, format "x  ≡{ n }≡  y").
Notation NonExpansive f := (∀ n, Proper (dist n ==> dist n) f).

Record OfeMixin A `{Equiv A, Dist A} := {
  mixin_equiv_dist (x y : A) : x ≡ y ↔ ∀ n, x ≡{n}≡ y;
  mixin_dist_equivalence n : Equivalence (@dist A _ n);
  mixin_dist_S n (x y : A) : x ≡{S n}≡ y → x ≡{n}≡ y
}.

Structure ofe := Ofe {
  ofe_car :> Type;
  ofe_equiv : Equiv ofe_car;
  ofe_dist : Dist ofe_car;
  ofe_mixin : OfeMixin ofe_car
}.
Global Hint Extern 0 (Equiv _) => eapply (@ofe_equiv _) : typeclass_instances.
Global Hint Extern 0 (Dist _) => eapply (@ofe_dist _) : typeclass_instances.

Section ofe_mixin.
  Context {A : ofe}.
  Implicit Types x y : A.
  Lemma equiv_dist x y : x ≡ y ↔ ∀ n, x ≡{n}≡ y.
admit.
Defined.
  Global Instance dist_equivalence n : Equivalence (@dist A _ n).
admit.
Defined.
End ofe_mixin.

Record chain (A : ofe) := {
  chain_car :> nat → A;
  chain_cauchy n i : n ≤ i → chain_car i ≡{n}≡ chain_car n
}.

Program Definition chain_map {A B : ofe} (f : A → B)
    `{!NonExpansive f} (c : chain A) : chain B :=
  {| chain_car n := f (c n) |}.
Next Obligation.
admit.
Defined.

Notation Compl A := (chain A%type → A).
Class Cofe (A : ofe) := {
  compl : Compl A;
  conv_compl n c : compl c ≡{n}≡ c n;
}.

Lemma compl_chain_map `{Cofe A, Cofe B} (f : A → B) c `(NonExpansive f) :
  compl (chain_map f c) ≡ f (compl c).
Proof.
apply equiv_dist=>n.
by rewrite !conv_compl.
```
</details>

<details><summary>Build Log (truncated to last 8.0KiB; full 3.6MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/885905435">GitHub Actions Artifacts</a> under <code>build.log</code>)</summary>

```
iris.heap_lang -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil coqutil -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose Goose -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src RecordUpdate -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src Tactical -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src iris_named_props -o /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/pmap.vo /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/pmap.v 
COQC external/stdpp/theories/gmap.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/src Perennial -w -ssr-search-moved -w -deprecated-hint-without-locality -w -deprecated-instance-without-locality -w -deprecated-hint-rewrite-without-locality -w +deprecated-tactic-notation -w -notation-overridden\,-redundant-canonical-projection -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories stdpp -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris iris -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated iris.deprecated -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging iris.staging -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang iris.heap_lang -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil coqutil -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose Goose -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src RecordUpdate -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src Tactical -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src iris_named_props -o /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/gmap.vo /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/gmap.v 
COQC external/stdpp/theories/coPset.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/src Perennial -w -ssr-search-moved -w -deprecated-hint-without-locality -w -deprecated-instance-without-locality -w -deprecated-hint-rewrite-without-locality -w +deprecated-tactic-notation -w -notation-overridden\,-redundant-canonical-projection -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories stdpp -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris iris -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated iris.deprecated -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging iris.staging -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang iris.heap_lang -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil coqutil -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose Goose -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src RecordUpdate -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src Tactical -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src iris_named_props -o /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/coPset.vo /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/coPset.v 
COQC external/stdpp/theories/namespaces.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/src Perennial -w -ssr-search-moved -w -deprecated-hint-without-locality -w -deprecated-instance-without-locality -w -deprecated-hint-rewrite-without-locality -w +deprecated-tactic-notation -w -notation-overridden\,-redundant-canonical-projection -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories stdpp -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris iris -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated iris.deprecated -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging iris.staging -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang iris.heap_lang -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil coqutil -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose Goose -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src RecordUpdate -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src Tactical -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src iris_named_props -o /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/namespaces.vo /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories/namespaces.v 
COQC external/iris/iris/algebra/ofe.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/src Perennial -w -ssr-search-moved -w -deprecated-hint-without-locality -w -deprecated-instance-without-locality -w -deprecated-hint-rewrite-without-locality -w +deprecated-tactic-notation -w -notation-overridden\,-redundant-canonical-projection -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories stdpp -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris iris -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated iris.deprecated -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging iris.staging -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang iris.heap_lang -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil coqutil -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose Goose -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src RecordUpdate -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src Tactical -Q /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src iris_named_props -o /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris/algebra/ofe.vo /github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris/algebra/ofe.v 
File "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris/algebra/ofe.v", line 136, characters 28-50:
Error: not a rewritable relation: (ofe_dist _ _ (compl _) (_ _))
in rule conv_compl

Makefile:48: recipe for target 'external/iris/iris/algebra/ofe.vo' failed
make[1]: *** [external/iris/iris/algebra/ofe.vo] Error 1
make[1]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/perennial'
Makefile.ci:109: recipe for target 'ci-perennial' failed
make: *** [ci-perennial] Error 2
/github/workspace/builds/coq /github/workspace
::endgroup::
```
</details>

<details><summary>Minimization Log (truncated to last 8.0KiB; full 4.2MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/885905435">GitHub Actions Artifacts</a> under <code>bug.log</code>)</summary>

```
/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe" "/tmp/tmpi5oq5sbt.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe" "/tmp/tmpwal1fpxe.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe" "/tmp/tmpdfls2vg5.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe" "/tmp/tmp6uvi11gh.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe" "/tmp/tmpepkevrlq.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/src" "Perennial" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/stdpp/theories" "stdpp" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris" "iris" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_deprecated" "iris.deprecated" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_staging" "iris.staging" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris/iris_heap_lang" "iris.heap_lang" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coqutil/src/coqutil" "coqutil" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/Goose" "Goose" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/record-update/src" "RecordUpdate" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/coq-tactical/src" "Tactical" "-Q" "/github/workspace/builds/coq/coq-failing/_build_ci/perennial/external/iris-named-props/src" "iris_named_props" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-top" "ofe" "/tmp/tmpisi0ldw6.v" "-q"
Line removal unsuccessful.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Non-fatal error: Failed to remove Ltac and preserve the error.  The alternate coqc (/github/workspace/builds/coq/coq-passing/_install_ci/bin/coqc.orig) was supposed to pass, but instead emitted an error.  
Writing intermediate code to /github/workspace/cwd/tmp.v.
The new error was:
File "/tmp/tmptxsrqe19.v", line 128, characters 0-22:
Error: No applicable tactic.



I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to remove empty sections

No empty sections to remove.

Now, I will attempt to strip repeated newlines and trailing spaces from this file...

No strippable newlines or spaces.
```
</details>

If you have any comments on your experience of the minimizer, please share them in a reply (possibly tagging `@JasonGross`).
If you believe there's a bug in the bug minimizer, please report it on [the bug minimizer issue tracker](https://github.com/JasonGross/coq-tools/issues).

_Originally posted by @coqbot-app[bot] in https://github.com/coq/coq/issues/14328#issuecomment-850479116_

**Comment by JasonGross** [comment]
And now fourcolor is minimizable too:
Minimized File /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v (from ci-fourcolor) (full log [on GitHub Actions](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/886751403))

<details><summary>Minimized Coq File</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical") -*- *)
(* File reduced by coq-bug-finder from original input, then from 451 lines to 35 lines, then from 99 lines to 1013 lines, then from 1016 lines to 85 lines, then from 99 lines to 206 lines, then from 209 lines to 101 lines, then from 114 lines to 360 lines, then from 363 lines to 185 lines, then from 198 lines to 330 lines, then from 334 lines to 185 lines, then from 189 lines to 185 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.12.0
   coqtop version 8.14+alpha *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.ssr.ssreflect.

Export Coq.ssr.ssreflect.
Require Coq.NArith.BinNat.

Set Implicit Arguments.
Unset Strict Implicit.

Module Export Real.

Record structure : Type := Structure {
   val : Type;
   set := val -> Prop;
   rel := val -> set;
   le : rel;
   sup : set -> val;
   add : val -> val -> val;
   zero : val;
   opp : val -> val;
   mul : val -> val -> val;
   one : val;
   inv : val -> val
}.

Definition eq R : rel R := fun x y => le x y /\ le y x.

Definition ub R (E : set R) : set R := fun z => forall y, E y -> le y z.

Definition down R (E : set R) : set R := fun x => exists2 y, E y & le x y.

Definition nonempty R (E : set R) : Prop := exists x, E x.
Definition has_ub R (E : set R) : Prop := nonempty (ub E).
Definition has_sup R (E : set R) : Prop := nonempty E /\ has_ub E.

Record axioms R : Prop := Axioms {
  le_reflexive (x : val R) :
    le x x;
  le_transitive (x y z : val R) :
    le x y -> le y z -> le x z;
  sup_upper_bound (E : set R) :
    has_sup E -> ub E (sup E);
  sup_total (E : set R) (x : val R) :
    has_sup E -> down E x \/ le (sup E) x;
  add_monotone (x y z : val R) :
    le y z -> le (add x y) (add x z);
  add_commutative (x y : val R) :
    eq (add x y) (add y x);
  add_associative (x y z : val R) :
    eq (add x (add y z)) (add (add x y) z);
  add_zero_left (x : val R) :
    eq (add (zero R) x) x;
  add_opposite_right (x : val R) :
    eq (add x (opp x)) (zero R);
  mul_monotone x y z :
    le (zero R) x -> le y z -> le (mul x y) (mul x z);
  mul_commutative (x y : val R) :
    eq (mul x y) (mul y x);
  mul_associative (x y z : val R) :
    eq (mul x (mul y z)) (mul (mul x y) z);
  mul_distributive_right (x y z : val R) :
    eq (mul x (add y z)) (add (mul x y) (mul x z));
  mul_one_left (x : val R) :
    eq (mul (one R) x) x;
  mul_inverse_right (x : val R) :
    ~ eq x (zero R) -> eq (mul x (inv x)) (one R);
  one_nonzero : ~ eq (one R) (zero R)
}.

Record model : Type := Model {
  model_structure : structure;
  model_axioms : axioms model_structure
}.

Definition image R S (phi : val R -> val S) (E : set R) (y : val S) :=
  exists2 x, E x & eq y (phi x).

Record morphism R S (phi : val R -> val S) : Prop := Morphism {
  morph_le x y :
   le (phi x) (phi y) <-> le x y;
  morph_sup (E : set R) :
   has_sup E -> eq (phi (sup E)) (sup (image phi E));
  morph_add x y :
   eq (phi (add x y)) (add (phi x) (phi y));
  morph_zero :
   eq (phi (zero R)) (zero S);
  morph_opp x :
   eq (phi (opp x)) (opp (phi x));
  morph_mul x y :
   eq (phi (mul x y)) (mul (phi x) (phi y));
  morph_one :
   eq (phi (one R)) (one S);
  morph_inv x :
   ~ eq x (zero R) -> eq (phi (inv x)) (inv (phi x))
}.
Coercion val : structure >-> Sortclass.
Coercion model_structure : model >-> structure.
Delimit Scope real_scope with Rval.
Local Open Scope real_scope.
Arguments add {R} x%Rval y%Rval : rename, simpl never.

Reserved Notation "x == y" (at level 70, no associativity).

Notation "x <= y" := (le x y) : real_scope.
Notation "x + y" := (add x y) : real_scope.
Notation "0" := (zero _) : real_scope.

Notation "x == y" := (eq x y) : real_scope.
Notation "x >= y" := (y <= x) (only parsing) : real_scope.
Notation "x < y" := (~ (x >= y)) : real_scope.
Notation "x <= y <= z" := (x <= y /\ y <= z) : real_scope.
Import Coq.Classes.Morphisms.

Section RealLemmas.

Variable R : Real.model.
Implicit Types x y z : R.
Local Notation eqR :=(@Real.eq (Real.model_structure R)) (only parsing).

Lemma leRR x : x <= x.
admit.
Defined.

Lemma ltRW x y : x < y -> x <= y.
admit.
Defined.

Lemma eqR_refl x : x == x.
admit.
Defined.

Lemma eqR_sym x y : x == y -> y == x.
admit.
Defined.

Lemma eqR_trans x y z : x == y -> y == z -> x == z.
admit.
Defined.

Add Parametric Relation : R eqR
  reflexivity proved by eqR_refl
  symmetry proved by eqR_sym
  transitivity proved by eqR_trans
  as real_equality.

Instance addR_Proper : Proper (eqR ==> eqR ==> eqR) Real.add.
admit.
Defined.

Lemma add0R x : 0 + x == x.
admit.
Defined.

End RealLemmas.

Hint Resolve eqR_refl leRR ltRW.

Existing Instance real_equality.
Existing Instance addR_Proper.

Section RealMorph.

Variables (R S : Real.structure) (phi : R -> S).
Hypothesis phiP : Real.morphism phi.

Lemma Rmorph_eq x y : phi x == phi y <-> x == y.
Proof.
by rewrite /Real.eq !Real.morph_le.
Qed.

End RealMorph.

Variables (R : Real.structure) (S : Real.model) (phi : R -> S).
Hypothesis phiP : Real.morphism phi.
Implicit Types (x y z : R) (E : Real.set R).
Let phi_eq := Rmorph_eq phiP.
Let phiD := Real.morph_add phiP.
Let phi0 := Real.morph_zero phiP.

Let Radd0 x : 0 + x == x.
Proof.
by rewrite -phi_eq phiD phi0 add0R.
```
</details>

<details><summary>Intermediate Coq File (useful for debugging if minimization did not go as far as you wanted)</summary>

```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical") -*- *)
(* File reduced by coq-bug-finder from original input, then from 451 lines to 35 lines, then from 99 lines to 1013 lines, then from 1016 lines to 85 lines, then from 99 lines to 206 lines, then from 209 lines to 101 lines, then from 114 lines to 360 lines, then from 363 lines to 185 lines, then from 198 lines to 330 lines, then from 334 lines to 185 lines, then from 189 lines to 184 lines *)
(* coqc version 8.14+alpha compiled with OCaml 4.12.0
   coqtop version 8.14+alpha *)
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.ssr.ssreflect.

Export Coq.ssr.ssreflect.
Require Coq.NArith.BinNat.

Set Implicit Arguments.
Unset Strict Implicit.

Module Export Real.

Record structure : Type := Structure {
   val : Type;
   set := val -> Prop;
   rel := val -> set;
   le : rel;
   sup : set -> val;
   add : val -> val -> val;
   zero : val;
   opp : val -> val;
   mul : val -> val -> val;
   one : val;
   inv : val -> val
}.

Definition eq R : rel R := fun x y => le x y /\ le y x.

Definition ub R (E : set R) : set R := fun z => forall y, E y -> le y z.

Definition down R (E : set R) : set R := fun x => exists2 y, E y & le x y.

Definition nonempty R (E : set R) : Prop := exists x, E x.
Definition has_ub R (E : set R) : Prop := nonempty (ub E).
Definition has_sup R (E : set R) : Prop := nonempty E /\ has_ub E.

Record axioms R : Prop := Axioms {
  le_reflexive (x : val R) :
    le x x;
  le_transitive (x y z : val R) :
    le x y -> le y z -> le x z;
  sup_upper_bound (E : set R) :
    has_sup E -> ub E (sup E);
  sup_total (E : set R) (x : val R) :
    has_sup E -> down E x \/ le (sup E) x;
  add_monotone (x y z : val R) :
    le y z -> le (add x y) (add x z);
  add_commutative (x y : val R) :
    eq (add x y) (add y x);
  add_associative (x y z : val R) :
    eq (add x (add y z)) (add (add x y) z);
  add_zero_left (x : val R) :
    eq (add (zero R) x) x;
  add_opposite_right (x : val R) :
    eq (add x (opp x)) (zero R);
  mul_monotone x y z :
    le (zero R) x -> le y z -> le (mul x y) (mul x z);
  mul_commutative (x y : val R) :
    eq (mul x y) (mul y x);
  mul_associative (x y z : val R) :
    eq (mul x (mul y z)) (mul (mul x y) z);
  mul_distributive_right (x y z : val R) :
    eq (mul x (add y z)) (add (mul x y) (mul x z));
  mul_one_left (x : val R) :
    eq (mul (one R) x) x;
  mul_inverse_right (x : val R) :
    ~ eq x (zero R) -> eq (mul x (inv x)) (one R);
  one_nonzero : ~ eq (one R) (zero R)
}.

Record model : Type := Model {
  model_structure : structure;
  model_axioms : axioms model_structure
}.

Definition image R S (phi : val R -> val S) (E : set R) (y : val S) :=
  exists2 x, E x & eq y (phi x).

Record morphism R S (phi : val R -> val S) : Prop := Morphism {
  morph_le x y :
   le (phi x) (phi y) <-> le x y;
  morph_sup (E : set R) :
   has_sup E -> eq (phi (sup E)) (sup (image phi E));
  morph_add x y :
   eq (phi (add x y)) (add (phi x) (phi y));
  morph_zero :
   eq (phi (zero R)) (zero S);
  morph_opp x :
   eq (phi (opp x)) (opp (phi x));
  morph_mul x y :
   eq (phi (mul x y)) (mul (phi x) (phi y));
  morph_one :
   eq (phi (one R)) (one S);
  morph_inv x :
   ~ eq x (zero R) -> eq (phi (inv x)) (inv (phi x))
}.
Coercion val : structure >-> Sortclass.
Coercion model_structure : model >-> structure.
Delimit Scope real_scope with Rval.
Local Open Scope real_scope.
Arguments add {R} x%Rval y%Rval : rename, simpl never.

Reserved Notation "x == y" (at level 70, no associativity).

Notation "x <= y" := (le x y) : real_scope.
Notation "x + y" := (add x y) : real_scope.
Notation "0" := (zero _) : real_scope.

Notation "x == y" := (eq x y) : real_scope.
Notation "x >= y" := (y <= x) (only parsing) : real_scope.
Notation "x < y" := (~ (x >= y)) : real_scope.
Notation "x <= y <= z" := (x <= y /\ y <= z) : real_scope.
Import Coq.Classes.Morphisms.

Section RealLemmas.

Variable R : Real.model.
Implicit Types x y z : R.
Local Notation eqR :=(@Real.eq (Real.model_structure R)) (only parsing).

Lemma leRR x : x <= x.
admit.
Defined.

Lemma ltRW x y : x < y -> x <= y.
admit.
Defined.

Lemma eqR_refl x : x == x.
admit.
Defined.

Lemma eqR_sym x y : x == y -> y == x.
admit.
Defined.

Lemma eqR_trans x y z : x == y -> y == z -> x == z.
admit.
Defined.

Add Parametric Relation : R eqR
  reflexivity proved by eqR_refl
  symmetry proved by eqR_sym
  transitivity proved by eqR_trans
  as real_equality.

Instance addR_Proper : Proper (eqR ==> eqR ==> eqR) Real.add.
admit.
Defined.

Lemma add0R x : 0 + x == x.
admit.
Defined.

End RealLemmas.

Hint Resolve eqR_refl leRR ltRW.

Existing Instance real_equality.
Existing Instance addR_Proper.

Section RealMorph.

Variables (R S : Real.structure) (phi : R -> S).
Hypothesis phiP : Real.morphism phi.

Lemma Rmorph_eq x y : phi x == phi y <-> x == y.
Proof.
by rewrite /Real.eq !Real.morph_le.
Qed.

End RealMorph.

Variables (R : Real.structure) (S : Real.model) (phi : R -> S).
Hypothesis phiP : Real.morphism phi.
Implicit Types (x y z : R) (E : Real.set R).
Let phi_eq := Rmorph_eq phiP.
Let phiD := Real.morph_add phiP.
Let phi0 := Real.morph_zero phiP.

Let Radd0 x : 0 + x == x.
Proof.
by rewrite -phi_eq phiD phi0 add0R.
```
</details>

<details><summary>Build Log (truncated to last 8.0KiB; full 3.8MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/886751403">GitHub Actions Artifacts</a> under <code>build.log</code>)</summary>

```
ve
-rwxr-xr-x 1 root root 22306888 May 26 20:24 coqnative.orig
-rwxr-xr-x 1 root root     1398 May 28 20:22 coqpp
-rwxr-xr-x 1 root root  3225128 May 26 20:24 coqpp.orig
-rwxr-xr-x 1 root root     1411 May 28 20:22 coqproofworker.opt
-rwxr-xr-x 1 root root 63283368 May 26 20:24 coqproofworker.opt.orig
-rwxr-xr-x 1 root root     1411 May 28 20:22 coqqueryworker.opt
-rwxr-xr-x 1 root root 63259160 May 26 20:24 coqqueryworker.opt.orig
-rwxr-xr-x 1 root root     1412 May 28 20:22 coqtacticworker.opt
-rwxr-xr-x 1 root root 63259632 May 26 20:24 coqtacticworker.opt.orig
-rwxr-xr-x 1 root root     1399 May 28 20:22 coqtop
-rwxr-xr-x 1 root root     1404 May 28 20:22 coqtop.byte
-rwxr-xr-x 1 root root 55318028 May 26 20:24 coqtop.byte.orig
-rwxr-xr-x 1 root root     1403 May 28 20:22 coqtop.opt
-rwxr-xr-x 1 root root 63219584 May 26 20:24 coqtop.opt.orig
-rwxr-xr-x 1 root root 63219584 May 26 20:24 coqtop.orig
-rwxr-xr-x 1 root root     1398 May 28 20:22 coqwc
-rwxr-xr-x 1 root root  2139648 May 26 20:24 coqwc.orig
-rwxr-xr-x 1 root root     1403 May 28 20:22 coqworkmgr
-rwxr-xr-x 1 root root  3595368 May 26 20:24 coqworkmgr.orig
-rwxr-xr-x 1 root root     1401 May 28 20:22 csdpcert
-rwxr-xr-x 1 root root  5866656 May 26 20:24 csdpcert.orig
-rwxr-xr-x 1 root root     1401 May 28 20:22 fake_ide
-rwxr-xr-x 1 root root  9038976 May 26 20:24 fake_ide.orig
-rwxr-xr-x 1 root root     1404 May 28 20:22 ocamllibdep
-rwxr-xr-x 1 root root  3249048 May 26 20:24 ocamllibdep.orig
-rwxr-xr-x 1 root root     1399 May 28 20:22 votour
-rwxr-xr-x 1 root root  3973136 May 26 20:24 votour.orig
++ CI_BUILD_DIR=/github/workspace/builds/coq/coq-failing/_build_ci
++ CI_INSTALL_DIR=/github/workspace/builds/coq/coq-failing/_install_ci
++ ls -l /github/workspace/builds/coq/coq-failing/_build_ci
total 8
drwxr-xr-x 4 root root 4096 May 26 20:51 fourcolor
drwxr-xr-x 6 root root 4096 May 26 20:30 mathcomp
++ declare -A overlays
++ set +x
+ git_download fourcolor
+ local project=fourcolor
+ local dest=/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor
+ local giturl_var=fourcolor_CI_GITURL
+ local giturl=https://github.com/math-comp/fourcolor
+ local ref_var=fourcolor_CI_REF
+ local ref=master
+ local ov_url=
+ local ov_ref=
+ '[' -d /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor ']'
+ echo 'Warning: download and unpacking of fourcolor skipped because /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor already exists.'
Warning: download and unpacking of fourcolor skipped because /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor already exists.
+ cd /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor
+ cd /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor
+ make
+ '[' -z x ']'
+ command make
+ make
make[1]: Entering directory '/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor'
/github/workspace/builds/coq/coq-failing/_install_ci/bin/coq_makefile -f _CoqProject -o Makefile.coq
make --no-print-directory -f Makefile.coq 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin//coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig --print-version 
COQC theories/realcategorical.v
MINIMIZER_DEBUG: /github/workspace/builds/coq/coq-failing/_install_ci/bin///coqc: COQPATH=
MINIMIZER_DEBUG: exec: /github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig -q -w -notation-overridden -w -redundant-canonical-projection -w -deprecated-native-compiler-option -native-compiler ondemand -R /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories fourcolor /github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v 
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.subring_closedM; GRing.smulr_closedN] : GRing.subring_closed >-> GRing.oppr_closed is ambiguous with existing 
[GRing.subring_closedB; GRing.zmod_closedN] : GRing.subring_closed >-> GRing.oppr_closed.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.subring_closed_semi; GRing.semiring_closedM] : GRing.subring_closed >-> GRing.mulr_closed is ambiguous with existing 
[GRing.subring_closedM; GRing.smulr_closedM] : GRing.subring_closed >-> GRing.mulr_closed.
New coercion path [GRing.subring_closed_semi; GRing.semiring_closedD] : GRing.subring_closed >-> GRing.addr_closed is ambiguous with existing 
[GRing.subring_closedB; GRing.zmod_closedD] : GRing.subring_closed >-> GRing.addr_closed.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.sdivr_closed_div; GRing.divr_closedM] : GRing.sdivr_closed >-> GRing.mulr_closed is ambiguous with existing 
[GRing.sdivr_closedM; GRing.smulr_closedM] : GRing.sdivr_closed >-> GRing.mulr_closed.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.subalg_closedBM; GRing.subring_closedB] : GRing.subalg_closed >-> GRing.zmod_closed is ambiguous with existing 
[GRing.subalg_closedZ; GRing.submod_closedB] : GRing.subalg_closed >-> GRing.zmod_closed.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.divring_closed_div; GRing.sdivr_closedM] : GRing.divring_closed >-> GRing.smulr_closed is ambiguous with existing 
[GRing.divring_closedBM; GRing.subring_closedM] : GRing.divring_closed >-> GRing.smulr_closed.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.divalg_closedBdiv; GRing.divring_closedBM] : GRing.divalg_closed >-> GRing.subring_closed is ambiguous with existing 
[GRing.divalg_closedZ; GRing.subalg_closedBM] : GRing.divalg_closed >-> GRing.subring_closed.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 4, characters 0-94:
Warning:
New coercion path [GRing.Pred.subring_smul; GRing.Pred.smul_mul] : GRing.Pred.subring >-> GRing.Pred.mul is ambiguous with existing 
[GRing.Pred.subring_semi; GRing.Pred.semiring_mul] : GRing.Pred.subring >-> GRing.Pred.mul.
[ambiguous-paths,typechecker]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 41, characters 0-27:
Warning: Adding and removing hints in the core database implicitly is
deprecated. Please specify a hint database.
[implicit-core-hint-db,deprecated]
File "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories/realcategorical.v", line 121, characters 7-41:
Error: not a rewritable relation: (0 + _ <= _ <= 0 + _) in rule add0R

Command exited with non-zero status 1
theories/realcategorical.vo (real: 1.14, user: 0.87, sys: 0.26, mem: 528040 ko)
Makefile.coq:762: recipe for target 'theories/realcategorical.vo' failed
make[3]: *** [theories/realcategorical.vo] Error 1
Makefile.coq:385: recipe for target 'all' failed
make[2]: *** [all] Error 2
Makefile:15: recipe for target 'invoke-coqmakefile' failed
make[1]: *** [invoke-coqmakefile] Error 2
make[1]: Leaving directory '/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor'
Makefile.ci:109: recipe for target 'ci-fourcolor' failed
make: *** [ci-fourcolor] Error 2
/github/workspace/builds/coq /github/workspace
::endgroup::
```
</details>

<details><summary>Minimization Log (truncated to last 8.0KiB; full 1.4MiB file on <a href="https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/886751403">GitHub Actions Artifacts</a> under <code>bug.log</code>)</summary>

```
s/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpce9041aw.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmptcnafp9r.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpjtycl3v1.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpq7drfria.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmppz1a4yhb.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpl6ohx87v.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpsic6fho_.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpjx1d8r9d.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmp314ln3ut.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmp8y7n8du9.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmptcov7rq3.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmplfry4ym0.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpfcy5pzj1.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpudav0hvt.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmp9uf2nfmc.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmpcksddc4y.v" "-q"

Running command: "/github/workspace/builds/coq/coq-failing/_install_ci/bin/coqc.orig" "-R" "/github/workspace/builds/coq/coq-failing/_build_ci/fourcolor/theories" "fourcolor" "-Q" "/github/workspace/cwd" "Top" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/Ltac2" "Ltac2" "-Q" "/github/workspace/builds/coq/coq-failing/_install_ci/lib/coq/user-contrib/mathcomp" "mathcomp" "-top" "realcategorical" "/tmp/tmp0xe2o5fb.v" "-q"
Line removal unsuccessful.

I will now attempt to remove goals ending in [Abort.]

Aborted removal successful.

I will now attempt to remove unused Ltacs

Ltac removal successful.

I will now attempt to remove unused definitions

Definition removal successful.

I will now attempt to remove unused non-instance, non-canonical structure definitions

Non-instance definition removal successful.

I will now attempt to remove unused variables

Variable removal successful.

I will now attempt to remove unused contexts

Context removal successful.

I will now attempt to remove empty sections

No empty sections to remove.

Now, I will attempt to strip repeated newlines and trailing spaces from this file...

No strippable newlines or spaces.
```
</details>

If you have any comments on your experience of the minimizer, please share them in a reply (possibly tagging `@JasonGross`).
If you believe there's a bug in the bug minimizer, please report it on [the bug minimizer issue tracker](https://github.com/JasonGross/coq-tools/issues).

_Originally posted by @coqbot-app[bot] in https://github.com/coq/coq/issues/14328#issuecomment-850666555_

**Comment by mattam82** [comment]
@JasonGross Again, really helpful job from the minimizer, thanks!

**Comment by JasonGross** [comment]
Glad it's useful!  Are any of the reduced files good candidates for the test-suite?

File: theories/Classes/RelationClasses.v [hunk 1]
```diff
@@ -162,16 +162,16 @@ Section Defs.
    It helps choosing if a rewrite should be handled
    by the generalized or the regular rewriting tactic using leibniz equality.
    Users can declare an [RewriteRelation A RA] anywhere to declare default
-   relations. This is also done automatically by the [Declare Relation A RA]
-   commands. *)
+   relations on a given type `A`. This is also done automatically by
+   the [Declare Relation A RA] commands. Its mode declaration is
+   [! -] (see below), as it is driven by the type of the support of the relation. *)
```
Comment (robbertkrebbers) [inline theories/Classes/RelationClasses.v:167]: I am not sure I understand this, why shouldn't the second argument also be `!`?

Isn't it the purpose of the class `DefaultRelation` to find a relation given an type?

Comment (mattam82) [reply theories/Classes/RelationClasses.v]: Nope, `DefaultRelation` is used for setoid replace only. In the last version I just pushed, `RewriteRelation` has no mode but won't fire `Equivalence ?R` constraints anymore, so Equivalence can also have mode `! !` without disrupting anything. This makes `stdpp` and `iris/perennial` pass with a single declaration `RewriteRelation equiv` in stdpp. I won't make overlays, I guess we can merge this and let iris/perennial update their stdpp ref instead.

**Comment by mattam82** [comment]
> Glad it's useful! Are any of the reduced files good candidates for the test-suite?

I integrated some already, indeed they're great for that as well.

File: theories/Classes/RelationClasses.v (hunk 1 above)
Comment (mattam82) [reply theories/Classes/RelationClasses.v]: `RewriteRelation` is supposed to be multi-success by the way: there might be multiple useful relations. e.g. an order and an equivalence on a single type.

Comment (robbertkrebbers) [reply theories/Classes/RelationClasses.v]: Would it be possible to add the things you just wrote here to the documentation?

Comment (mattam82) [reply theories/Classes/RelationClasses.v]: Yes, sure.

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 2]
```diff
@@ -433,6 +433,17 @@ implementation, the tactic will always choose the first possible
 solution to the set of constraints generated by a rewrite and will not
 try to find *all* the possible solutions to warn the user about them.
 
+Compatibility with ssreflect's rewrite
+~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
+
+When calling ssreflect's :tacn:`rewrite` tactic with a lemma, a check is
+performed to see if the rewriting relation can be handled by generalized rewriting.
+This relies on the ``RewriteRelation A R`` typeclass, indexed by a type and relation,
+that registers relations handled by generalized rewriting.
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst:442]:
```suggestion
The :tacn:`rewrite (ssreflect)` tactic uses generalized rewriting when possible.
The ``RewriteRelation A R`` typeclass, indexed by a type and relation, identifies
the relations that generalized rewriting handles.
```

If that says what's needed here.

If some of this information applies only to the one tactic, maybe it should appear in the description of `rewrite` in the SSR chapter?

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 3]
```diff
@@ -433,6 +433,17 @@ implementation, the tactic will always choose the first possible
...
+The default instances of this class are the ``iff```, ``impl`` and ``flip impl``
+relations on ``Prop``, any declared ``Equivalence`` on a type ``A`` (including Leibniz equality),
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst:444]:
```suggestion
relations on ``Prop``, any declared ``Equivalence`` on a type ``A`` (including :term:`Leibniz equality`),
```

Hyperlink to the definition.

File: doc/sphinx/addendum/generalized-rewriting.rst [hunk 4]
```diff
@@ -478,7 +489,7 @@ for further explanations.
 
 One can inform the rewrite tactic about morphisms and relations just
 by using the typeclass mechanism to declare them using the :cmd:`Instance` and
-:cmd:`Context` commands. Any object of type Proper (the type of
+:cmd:`Context` commands. Any object of type ``Proper`` (the type of
```
Comment (jfehrle) [inline doc/sphinx/addendum/generalized-rewriting.rst:492]: I take it `Proper` is a `Type`?  Maybe at some point we can add a list of such predefined Types in the doc.

**Review by jfehrle — COMMENTED** [review]
A few suggestions.  Shouldn't there be a change log entry?

File: doc/sphinx/addendum/generalized-rewriting.rst (hunk 2 above)
Comment (mattam82) [reply doc/sphinx/addendum/generalized-rewriting.rst:442]: We could backlink from the ssr chapter indeed.

**Comment by SkySkimmer** [comment]
Mixed results
~~~
┌─────────────────────────────┬──────────────────────────┬────────────────────────────────────────┬────────────────────────────────────────┬─────────────────────────┬──────────────────┐
│                             │      user time [s]       │               CPU cycles               │            CPU instructions            │  max resident mem [KB]  │    mem faults    │
│                             │                          │                                        │                                        │                         │                  │
│                package_name │     NEW      OLD   PDIFF │            NEW             OLD   PDIFF │            NEW             OLD   PDIFF │     NEW      OLD  PDIFF │ NEW  OLD   PDIFF │
├─────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼─────────────────────────┼──────────────────┤
│                   coq-color │  218.71   266.12  -17.82 │   980887178602   1197609742073  -18.10 │  1369507916211   1601160300913  -14.47 │ 1087556  1140792  -4.67 │   0    0     nan │
│            coq-math-classes │   90.87    93.60   -2.92 │   410241214199    422540476227   -2.91 │   572358194004    591617805551   -3.26 │  495920   495236   0.14 │   0    0     nan │
│                    coq-corn │  790.64   801.21   -1.32 │  3586539910368   3633712676695   -1.30 │  5501880721916   5586263886701   -1.51 │  874508   875568  -0.12 │   0    0     nan │
│    coq-metacoq-translations │   19.88    20.09   -1.05 │    87871184017     88146129560   -0.31 │   153923506558    153948870676   -0.02 │  929464   935832  -0.68 │   0    0     nan │
│                coq-coqprime │  183.48   184.88   -0.76 │   837037211217    843135466103   -0.72 │  1560521036330   1560644171864   -0.01 │  827944   907148  -8.73 │   0    0     nan │
│               coq-fiat-core │   54.65    55.00   -0.64 │   235030883308    237203009464   -0.92 │   324904948901    325441606559   -0.16 │  473612   473636  -0.01 │   0    0     nan │
│        coq-metacoq-template │   75.87    76.25   -0.50 │   336765590111    338123367268   -0.40 │   504642715016    504610691749    0.01 │  701016   697068   0.57 │   0    0     nan │
│               coq-fourcolor │ 1491.92  1499.07   -0.48 │  6598290070953   6624016028261   -0.39 │ 12093381821454  12087722994286    0.05 │  725892   728220  -0.32 │   0    0     nan │
│              coq-verdi-raft │  579.54   581.56   -0.35 │  2637934644992   2645059463637   -0.27 │  4050604650768   4049267010919    0.03 │ 1227288  1222780   0.37 │   0    0     nan │
│     coq-metacoq-safechecker │  192.80   193.44   -0.33 │   876947984289    879749249418   -0.32 │  1167013483956   1167291581926   -0.02 │ 1205796  1205524   0.02 │   0    0     nan │
│                coq-rewriter │  375.86   377.03   -0.31 │  1700361624626   1706592623517   -0.37 │  2768850904010   2771621984825   -0.10 │  979244  1062204  -7.81 │   0    0     nan │
│              coq-coquelicot │   34.71    34.78   -0.20 │   155336698841    155551165896   -0.14 │   203104344632    203066456496    0.02 │  753724   748616   0.68 │   1    0     nan │
│                    coq-hott │  153.78   154.08   -0.19 │   691074974633    691638144036   -0.08 │  1075384526647   1075404948035   -0.00 │  658384   661852  -0.52 │   0    0     nan │
│                   coq-verdi │   48.48    48.56   -0.16 │   218693207376    218870702865   -0.08 │   324678251145    324419533264    0.08 │  831080   833236  -0.26 │   0    0     nan │
│           coq-metacoq-pcuic │  741.51   742.60   -0.15 │  3373737907763   3377266675980   -0.10 │  4694948981246   4713199713942   -0.39 │ 1153748  1150864   0.25 │   0    0     nan │
│                coq-compcert │  291.68   291.93   -0.09 │  1313538450942   1312764207923    0.06 │  1944731494183   1943932105481    0.04 │ 1098948  1097560   0.13 │   0    0     nan │
│                 coq-unimath │ 3667.54  3668.87   -0.04 │ 16679789309703  16684345986312   -0.03 │ 33156551425919  33156440893419    0.00 │ 3860872  3862456  -0.04 │   0    0     nan │
│                 coq-bignums │   28.53    28.54   -0.04 │   129280590832    129296583391   -0.01 │   176006637905    175933885766    0.04 │  465216   466500  -0.28 │   0    0     nan │
│                  coq-geocoq │  716.61   716.61    0.00 │  3256940154447   3254754469445    0.07 │  5161470261221   5160426762554    0.02 │ 1080068  1077508   0.24 │   0    0     nan │
│             coq-fiat-crypto │ 2951.85  2943.75    0.28 │ 13311698317896  13273220216723    0.29 │ 24387936091411  24357629651381    0.12 │ 3855220  3853252   0.05 │   1    0     nan │
│                 coq-coqutil │   35.12    35.02    0.29 │   156799210178    156601090024    0.13 │   208977776205    208782442581    0.09 │  602340   599452   0.48 │   0    0     nan │
│  coq-performance-tests-lite │  784.81   782.43    0.30 │  3523524750668   3514166526772    0.27 │  5957937959598   5961565835509   -0.06 │ 1826184  1827560  -0.08 │   0    0     nan │
│         coq-metacoq-erasure │   70.77    70.52    0.35 │   315754974278    314794261463    0.31 │   462900242113    463209064026   -0.07 │ 1075712  1079180  -0.32 │   0    0     nan │
│ coq-rewriter-perf-SuperFast │  924.86   921.51    0.36 │  4161065041377   4146009340682    0.36 │  7195767006292   7196531702140   -0.01 │ 1148464  1145736   0.24 │   4    0     nan │
│       coq-engine-bench-lite │  178.21   177.45    0.43 │   764801918797    761640731374    0.42 │  1487238325846   1484975458123    0.15 │ 1173736  1173784  -0.00 │   0    0     nan │
│                  coq-stdlib │  406.78   405.00    0.44 │  1649988813606   1641967714005    0.49 │  1449805226321   1445125238053    0.32 │  598236   590788   1.26 │   0    0     nan │
│                     coq-vst │ 1156.35  1150.99    0.47 │  5240400327438   5219936859566    0.39 │  8425414653264   8417160168858    0.10 │ 1897864  1897284   0.03 │   3    0     nan │
│                    coq-core │   97.34    96.73    0.63 │   386337042137    383291712043    0.79 │   432791686213    432869146316   -0.02 │  250116   249764   0.14 │   0    0     nan │
│            coq-fiat-parsers │  335.32   333.13    0.66 │  1487564948823   1477704385379    0.67 │  2448388913336   2424868967919    0.97 │ 2794352  2788448   0.21 │   0    0     nan │
│           coq-iris-examples │  467.33   464.05    0.71 │  2118453436291   2103030719157    0.73 │  3155537826993   3140972723898    0.46 │ 1182736  1180868   0.16 │   7    2  250.00 │
│                coq-bedrock2 │  191.40   189.87    0.81 │   858378604000    851582089770    0.80 │  1574684527632   1568123008924    0.42 │ 2053864  2053872  -0.00 │   0    0     nan │
│                  coq-flocq3 │   76.72    76.09    0.83 │   347652641827    344698730622    0.86 │   455553750115    454882307469    0.15 │  987120   988236  -0.11 │   4    0     nan │
│          coq-mathcomp-field │  115.23   114.08    1.01 │   526343495474    520839024898    1.06 │   861889794372    851280134283    1.25 │  663860   663948  -0.01 │   0    0     nan │
│        coq-mathcomp-algebra │   64.17    63.51    1.04 │   292857518017    288921736224    1.36 │   401188495415    399034308915    0.54 │  560888   559360   0.27 │   0    0     nan │
│      coq-mathcomp-ssreflect │   26.41    26.08    1.27 │   119611345119    117760849850    1.57 │   149066058667    147465645933    1.09 │  533396   532116   0.24 │   0    0     nan │
│      coq-mathcomp-character │   77.19    76.16    1.35 │   352207525862    347626676079    1.32 │   530500631048    527776185489    0.52 │  722752   731008  -1.13 │   0    0     nan │
│       coq-mathcomp-solvable │   88.94    87.62    1.51 │   405501196097    399929326901    1.39 │   616208373333    612090923705    0.67 │  670516   668736   0.27 │   0    0     nan │
│       coq-mathcomp-fingroup │   23.72    23.28    1.89 │   107887063808    106211653811    1.58 │   156754640879    155240996148    0.98 │  483860   478100   1.20 │   0    0     nan │
│      coq-mathcomp-odd-order │  578.36   557.02    3.83 │  2645280070775   2547600991812    3.83 │  4424765460149   4309529430956    2.67 │  932876   931204   0.18 │   0    0     nan │
│               coq-perennial │ 7264.22  4131.43   75.83 │ 33089293030206  18735488856052   76.61 │ 49657905464373  30703466060893   61.73 │ 2594184  2596280  -0.08 │   0    0     nan │
└─────────────────────────────┴──────────────────────────┴────────────────────────────────────────┴────────────────────────────────────────┴─────────────────────────┴──────────────────┘
~~~

**Comment by mattam82** [comment]
Yep, I'm fixing the performance issue in perennial now, which is due to a wrong priority of hints.

**Comment by mattam82** [comment]
Latest bench is much better:
```
┌─────────────────────────────┬──────────────────────────┬────────────────────────────────────────┬────────────────────────────────────────┬──────────────────────────┬───────────────────┐
│                             │      user time [s]       │               CPU cycles               │            CPU instructions            │  max resident mem [KB]   │    mem faults     │
│                             │                          │                                        │                                        │                          │                   │
│                package_name │     NEW      OLD   PDIFF │            NEW             OLD   PDIFF │            NEW             OLD   PDIFF │     NEW      OLD   PDIFF │ NEW  OLD    PDIFF │
├─────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼───────────────────┤
│                   coq-color │  216.72   263.23  -17.67 │   971297160799   1181848234709  -17.82 │  1369997941257   1601626522829  -14.46 │ 1087184  1144900   -5.04 │   0    0      nan │
│            coq-math-classes │   90.89    93.07   -2.34 │   409451224002    420712825238   -2.68 │   572561189069    591891451320   -3.27 │  499340   495804    0.71 │   0    0      nan │
│                    coq-corn │  782.96   792.64   -1.22 │  3548456281311   3594019884023   -1.27 │  5486150182712   5570605001909   -1.52 │  874508   875792   -0.15 │   0    0      nan │
│               coq-perennial │ 4101.59  4136.72   -0.85 │ 18599422886262  18754471633676   -0.83 │ 30633004240243  30708941537510   -0.25 │ 2592188  2608580   -0.63 │   0    6  -100.00 │
│           coq-metacoq-pcuic │  727.48   731.26   -0.52 │  3305119771057   3323682648736   -0.56 │  4671568980612   4689954997477   -0.39 │ 1150664  1156276   -0.49 │   0    0      nan │
│     coq-metacoq-safechecker │  190.05   191.00   -0.50 │   864222070124    868362947914   -0.48 │  1168203404586   1168704706425   -0.04 │ 1205296  1205536   -0.02 │   0    0      nan │
│               coq-fiat-core │   53.80    54.00   -0.37 │   231861455021    232559102669   -0.30 │   324572417611    325078661294   -0.16 │  473820   473364    0.10 │   0    0      nan │
│                coq-rewriter │  372.84   374.13   -0.34 │  1689005855480   1692218091516   -0.19 │  2772269671150   2775312146802   -0.11 │ 1060052  1066564   -0.61 │   0    0      nan │
│                   coq-verdi │   48.41    48.48   -0.14 │   218482900168    218019280785    0.21 │   324506949437    324450520014    0.02 │  832216   828216    0.48 │   0    0      nan │
│                  coq-geocoq │  699.43   700.26   -0.12 │  3178527681858   3180417828903   -0.06 │  5038642296892   5037867499890    0.02 │ 1076504  1078860   -0.22 │   0    0      nan │
│ coq-rewriter-perf-SuperFast │  924.75   925.74   -0.11 │  4158124997108   4162891694887   -0.11 │  7202106300544   7203932168607   -0.03 │ 1144160  1145084   -0.08 │   0    0      nan │
│                 coq-unimath │ 3662.78  3666.53   -0.10 │ 16648924541256  16670397546411   -0.13 │ 33169050918989  33169333749551   -0.00 │ 3865432  3867112   -0.04 │   0    0      nan │
│                    coq-core │   97.22    97.30   -0.08 │   384346822848    385052256194   -0.18 │   433573240990    433351544616    0.05 │  249752   249280    0.19 │   0    0      nan │
│                  coq-stdlib │  407.43   407.48   -0.01 │  1655095695604   1652752408029    0.14 │  1449247848513   1444924011630    0.30 │  596924   590776    1.04 │   0    0      nan │
│                    coq-hott │  153.02   153.03   -0.01 │   686568570159    686811350558   -0.04 │  1075176211486   1075058760187    0.01 │  658884   659032   -0.02 │   0    0      nan │
│              coq-verdi-raft │  578.92   578.55    0.06 │  2636117063844   2632715539441    0.13 │  4047276786130   4047171704659    0.00 │ 1229480  1223236    0.51 │   0    0      nan │
│        coq-metacoq-template │   75.05    74.98    0.09 │   331566945426    331223094183    0.10 │   503633792187    503484338779    0.03 │  697364   699320   -0.28 │   0    0      nan │
│                 coq-coqutil │   34.89    34.85    0.11 │   155652537438    155462821261    0.12 │   208654901130    208573285179    0.04 │  600460   601172   -0.12 │   0    0      nan │
│                coq-coqprime │  178.74   178.53    0.12 │   815077388073    813837746126    0.15 │  1555255046042   1554407545589    0.05 │  828224   907036   -8.69 │   0    0      nan │
│                  coq-flocq3 │   75.87    75.74    0.17 │   344206918350    343572959356    0.18 │   455671890548    454944332941    0.16 │  989744   986628    0.32 │   7    0      nan │
│                 coq-bignums │   28.14    28.09    0.18 │   127355263412    126924066003    0.34 │   174172295801    174035152034    0.08 │  466840   466440    0.09 │   0    0      nan │
│             coq-fiat-crypto │ 2945.21  2939.93    0.18 │ 13278208898734  13257633115174    0.16 │ 24399677942904  24380544484028    0.08 │ 3855452  3854880    0.01 │   0    0      nan │
│               coq-fourcolor │ 1509.88  1506.83    0.20 │  6667045815825   6652971735338    0.21 │ 12091891530692  12086472986324    0.04 │  724708   726456   -0.24 │   0    0      nan │
│  coq-performance-tests-lite │  777.61   775.61    0.26 │  3489835774315   3483580198921    0.18 │  5920807419915   5920108378007    0.01 │ 1629188  1827792  -10.87 │   3    0      nan │
│         coq-metacoq-erasure │   69.79    69.57    0.32 │   311267166271    310697506498    0.18 │   462741015137    462867410560   -0.03 │ 1074048  1075652   -0.15 │   0    0      nan │
│                coq-compcert │  290.33   289.38    0.33 │  1305553329876   1301376158886    0.32 │  1943010082178   1942353414762    0.03 │ 1099128  1097436    0.15 │   0    0      nan │
│    coq-metacoq-translations │   19.97    19.89    0.40 │    87539269685     87367813982    0.20 │   153872864040    153865215743    0.00 │  930984   930944    0.00 │   0    0      nan │
│                coq-bedrock2 │  191.48   190.70    0.41 │   857617061178    854084544684    0.41 │  1575661591584   1570278564408    0.34 │ 2053888  2054140   -0.01 │   1    0      nan │
│           coq-iris-examples │  462.58   460.60    0.43 │  2097437277032   2087409615119    0.48 │  3141712532618   3142214253939   -0.02 │ 1181080  1181140   -0.01 │   0    0      nan │
│                     coq-vst │ 1147.07  1141.72    0.47 │  5200706697013   5175829345734    0.48 │  8410488122335   8402007207726    0.10 │ 1897804  1908200   -0.54 │  12    0      nan │
│              coq-coquelicot │   34.59    34.36    0.67 │   154404733257    153695839971    0.46 │   203109931732    203061799193    0.02 │  749164   748636    0.07 │   4    0      nan │
│        coq-mathcomp-algebra │   64.10    63.54    0.88 │   291811665608    289123956230    0.93 │   401188239894    399093926270    0.52 │  559376   560332   -0.17 │   0    0      nan │
│      coq-mathcomp-character │   76.95    76.27    0.89 │   351286892106    348303766762    0.86 │   530554561883    527789122103    0.52 │  722244   732316   -1.38 │   0    0      nan │
│          coq-mathcomp-field │  114.55   113.51    0.92 │   523378935039    518194012620    1.00 │   861813962702    851192880529    1.25 │  664088   661920    0.33 │   0    0      nan │
│       coq-engine-bench-lite │  178.27   176.55    0.97 │   764802601922    756185489304    1.14 │  1486110826497   1482989606668    0.21 │ 1174500  1175620   -0.10 │   0    0      nan │
│       coq-mathcomp-solvable │   88.78    87.65    1.29 │   404630999578    399904505812    1.18 │   616205804119    612179564608    0.66 │  670744   668784    0.29 │   0    0      nan │
│       coq-mathcomp-fingroup │   23.70    23.29    1.76 │   107974225544    106026470073    1.84 │   156746663533    155230584580    0.98 │  483532   478044    1.15 │   0    0      nan │
│            coq-fiat-parsers │  340.00   333.52    1.94 │  1507891928319   1481998532724    1.75 │  2484109260283   2459343727605    1.01 │ 2792616  2790812    0.06 │   0    0      nan │
│      coq-mathcomp-ssreflect │   26.25    25.72    2.06 │   118799350810    116509341825    1.97 │   149107704739    147539265125    1.06 │  531464   535620   -0.78 │   0    0      nan │
│      coq-mathcomp-odd-order │  575.77   558.37    3.12 │  2633708067069   2553703321827    3.13 │  4424590097921   4309133282033    2.68 │  933508   932400    0.12 │   0    0      nan │
└─────────────────────────────┴──────────────────────────┴────────────────────────────────────────┴────────────────────────────────────────┴──────────────────────────┴───────────────────┘
```

**Comment by mattam82** [comment]
@ppedrot do you want to assign? Shall I rebase to get a clean bedrock2 CI?

**Comment by ppedrot** [comment]
@mattam82 yes, please rebase and squash the overlay commits.

**Comment by mattam82** [comment]
I squashed everything, and also improved the is_applied_rewrite_relation test used by ssr's rewrite to make it more efficient, this should also remove the slowdown introduced in oddorder.

**Comment by ppedrot** [comment]
Rerun a bench maybe then?

**Comment by mattam82** [comment]
It's running

**Comment by Alizter** [comment]
https://gitlab.com/coq/coq/-/jobs/1982523262

**Comment by SkySkimmer** [comment]
>Put a link, otherwise it's a mess to find it back after a rebase.

You can find it in the zulip stream

**Comment by ppedrot** [comment]
> You can find it in the zulip stream

Hardly any better...

**Comment by mattam82** [comment]
Looking good, odd-order is now faster :)

**Review by ppedrot — APPROVED** [review]

**Comment by mattam82** [comment]
Last bench, FTR:
```
┌─────────────────────────────┬──────────────────────────┬────────────────────────────────────────┬────────────────────────────────────────┬──────────────────────────┬──────────────────┐
│                             │      user time [s]       │               CPU cycles               │            CPU instructions            │  max resident mem [KB]   │    mem faults    │
│                             │                          │                                        │                                        │                          │                  │
│                package_name │     NEW      OLD   PDIFF │            NEW             OLD   PDIFF │            NEW             OLD   PDIFF │     NEW      OLD   PDIFF │ NEW  OLD   PDIFF │
├─────────────────────────────┼──────────────────────────┼────────────────────────────────────────┼────────────────────────────────────────┼──────────────────────────┼──────────────────┤
│                   coq-color │  206.89   251.88  -17.86 │   925985157787   1130952524500  -18.12 │  1318379845647   1538057708865  -14.28 │ 1144988  1150720   -0.50 │   0    0     nan │
│            coq-math-classes │   89.69    93.12   -3.68 │   404114911503    420146473994   -3.82 │   568584131894    587762693762   -3.26 │  496868   495908    0.19 │   0    0     nan │
│               coq-fiat-core │   53.22    54.03   -1.50 │   229505633634    231063435098   -0.67 │   321779079592    322278493779   -0.15 │  476324   476256    0.01 │   0    0     nan │
│                 coq-coqutil │   34.39    34.78   -1.12 │   153543159812    154801382655   -0.81 │   207653492262    207569172697    0.04 │  601444   602040   -0.10 │   0    0     nan │
│                coq-coqprime │  177.74   179.73   -1.11 │   810145353925    819824180581   -1.18 │  1554609611566   1554236812238    0.02 │  906120   906104    0.00 │   0    0     nan │
│              coq-coquelicot │   33.99    34.32   -0.96 │   151990505011    153084962917   -0.71 │   201606490727    201480788949    0.06 │  747008   749372   -0.32 │   2    0     nan │
│                  coq-geocoq │  686.28   692.82   -0.94 │  3118611123227   3146417418750   -0.88 │  4943761874274   4942771364028    0.02 │ 1072508  1078032   -0.51 │   0    0     nan │
│           coq-metacoq-pcuic │  478.96   482.54   -0.74 │  2172289086870   2189073779672   -0.77 │  3088129110575   3110899569506   -0.73 │ 1118288  1127420   -0.81 │   0    0     nan │
│                   coq-verdi │   47.65    48.00   -0.73 │   215180735707    216231628099   -0.49 │   322026216281    321868457914    0.05 │  834352   831972    0.29 │   0    0     nan │
│                    coq-corn │  756.61   761.48   -0.64 │  3432760701924   3454232501488   -0.62 │  5278339762965   5362725711725   -1.57 │  867536   870968   -0.39 │   0    0     nan │
│     coq-metacoq-safechecker │  183.08   184.06   -0.53 │   832605428433    836699225829   -0.49 │  1125363744636   1125975037363   -0.05 │ 1220360  1220588   -0.02 │   0    0     nan │
│      coq-mathcomp-odd-order │  548.76   551.36   -0.47 │  2510566667594   2521584886690   -0.44 │  4271230221820   4279939250367   -0.20 │  932832   933404   -0.06 │   0    0     nan │
│                coq-compcert │  279.28   280.21   -0.33 │  1256449283633   1259253807041   -0.22 │  1876365840302   1876271704759    0.01 │ 1098368  1097300    0.10 │   0    0     nan │
│         coq-metacoq-erasure │   62.77    62.94   -0.27 │   279482529691    280432271854   -0.34 │   423038515069    423150831161   -0.03 │ 1071560  1071728   -0.02 │   0    0     nan │
│              coq-verdi-raft │  560.72   561.85   -0.20 │  2550176135560   2556908157029   -0.26 │  3939559831303   3939011041565    0.01 │ 1225960  1230300   -0.35 │   0    0     nan │
│                    coq-core │   96.82    96.97   -0.15 │   384258048424    382551778440    0.45 │   433272962281    433426287796   -0.04 │  273052   273496   -0.16 │   1    0     nan │
│                 coq-unimath │ 3655.58  3659.29   -0.10 │ 16617792911208  16634503065624   -0.10 │ 33162641879422  33162591946075    0.00 │ 4128680  4130128   -0.04 │   0    0     nan │
│           coq-iris-examples │  419.68   420.06   -0.09 │  1900458993290   1904404747411   -0.21 │  2910585363350   2917528675485   -0.24 │ 1172988  1168004    0.43 │   0    0     nan │
│                coq-bedrock2 │  188.51   188.60   -0.05 │   844744348743    846097824033   -0.16 │  1570261583180   1565223164712    0.32 │ 2053400  2049132    0.21 │   0    0     nan │
│                     coq-vst │ 1054.31  1054.65   -0.03 │  4772797562644   4778087832184   -0.11 │  7797530314949   7794822500453    0.03 │ 2115612  2115708   -0.00 │   3   15  -80.00 │
│          coq-mathcomp-field │  110.89   110.87    0.02 │   506624793428    506376558421    0.05 │   838977834671    838586587036    0.05 │  644816   649164   -0.67 │   0    0     nan │
│             coq-fiat-crypto │ 2848.26  2847.52    0.03 │ 12835544706195  12836704201230   -0.01 │ 23780219685189  23758045334396    0.09 │ 3844804  3767836    2.04 │   1    0     nan │
│                    coq-hott │  152.61   152.57    0.03 │   684668569562    685752554146   -0.16 │  1073951628966   1073991234910   -0.00 │  660036   658304    0.26 │   0    0     nan │
│        coq-metacoq-template │   72.85    72.79    0.08 │   322410599293    322153727731    0.08 │   489694258008    489650642388    0.01 │  698596   701020   -0.35 │   0    0     nan │
│               coq-fourcolor │ 1511.11  1508.96    0.14 │  6674956828575   6663836877526    0.17 │ 12084823040358  12081554148252    0.03 │  724060   724408   -0.05 │   0    0     nan │
│               coq-perennial │ 3998.45  3988.37    0.25 │ 18127564048215  18084751554618    0.24 │ 30017563200235  30079378254461   -0.21 │ 2608560  2596980    0.45 │   0    0     nan │
│    coq-metacoq-translations │   19.71    19.66    0.25 │    86359230194     86231144572    0.15 │   152936698842    152917932620    0.01 │  929568   929940   -0.04 │   0    0     nan │
│                coq-rewriter │  366.35   365.42    0.25 │  1657137687268   1653014613446    0.25 │  2717719647211   2719428807157   -0.06 │ 1059436  1058020    0.13 │   0    0     nan │
│                  coq-stdlib │  403.46   402.40    0.26 │  1631223216708   1622636845448    0.53 │  1409113118740   1405244595194    0.28 │  598372   597144    0.21 │   0    0     nan │
│  coq-performance-tests-lite │  778.01   775.31    0.35 │  3493501709383   3480090254245    0.39 │  5915304045912   5918610994125   -0.06 │ 2050292  2320872  -11.66 │   1    0     nan │
│ coq-rewriter-perf-SuperFast │  919.03   915.51    0.38 │  4132334964584   4114966323506    0.42 │  7152412203700   7153998754850   -0.02 │ 1145232  1142996    0.20 │   0    0     nan │
│                  coq-flocq3 │   75.70    75.40    0.40 │   343412991003    342393298635    0.30 │   455040108731    454500281648    0.12 │  989328   991372   -0.21 │   2    0     nan │
│       coq-mathcomp-solvable │   87.01    86.65    0.42 │   396665060163    395137657526    0.39 │   611315302658    609282145546    0.33 │  671184   669532    0.25 │   0    0     nan │
│      coq-mathcomp-character │   75.98    75.64    0.45 │   346844789835    345458334897    0.40 │   526091866616    525196012134    0.17 │  725424   725680   -0.04 │   0    0     nan │
│            coq-fiat-parsers │  334.02   331.57    0.74 │  1482970856071   1471176720955    0.80 │  2448838388854   2435445408840    0.55 │ 2786728  2783184    0.13 │   0    0     nan │
│                 coq-bignums │   27.71    27.50    0.76 │   125602438782    124827432704    0.62 │   172202076983    172173258117    0.02 │  465820   465464    0.08 │   0    0     nan │
│       coq-engine-bench-lite │  178.24   176.80    0.81 │   764480410154    758338623058    0.81 │  1488466353734   1484654800156    0.26 │ 1172936  1172464    0.04 │   0    0     nan │
│        coq-mathcomp-algebra │   63.72    62.53    1.90 │   289485669785    284887118870    1.61 │   398479400811    395660293291    0.71 │  556924   558544   -0.29 │   0    0     nan │
│       coq-mathcomp-fingroup │   23.54    23.07    2.04 │   107349709847    105194564478    2.05 │   156045801873    155065269949    0.63 │  483000   477464    1.16 │   0    0     nan │
│      coq-mathcomp-ssreflect │   26.07    25.52    2.16 │   117910602022    115460425449    2.12 │   147998226517    146813877248    0.81 │  530764   532544   -0.33 │   0    0     nan │
└─────────────────────────────┴──────────────────────────┴────────────────────────────────────────┴────────────────────────────────────────┴──────────────────────────┴──────────────────┘
```

**Comment by mattam82** [comment]
Finally, glad to be done with this one!

**Comment by ppedrot** [comment]
@coqbot merge now

File: theories/Classes/Morphisms.v [hunk 5]
```diff
@@ -483,6 +547,10 @@ Class PartialApplication.
 CoInductive normalization_done : Prop := did_normalization.
 
 Class Params {A : Type} (of : A) (arity : nat).
+(* #[global] Instance eq_pars : Params (@eq) 1 := {}.
+#[global] Instance iff_pars : Params (@iff) 0 := {}.
+#[global] Instance impl_pars : Params (@impl) 0 := {}.
+#[global] Instance flip_pars : Params (@flip) 3 := {}. *)
```
Comment (Blaisorblade) [inline theories/Classes/Morphisms.v:553]: Are these instances still commented out in master?

Comment (mattam82) [reply theories/Classes/Morphisms.v:553]: If so, that is a mistake

Comment (mattam82) [reply theories/Classes/Morphisms.v:553]: Indeed, we should revert that
